2145-04-02 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 Dialysis last night
   Coffee ground material from NGT after epistaxis in setting of dobhoff
   tube placement
   Patient removed dobhoff this am.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-4-1**] 11:37 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-2**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 72 (51 - 72) bpm
   BP: 119/53(71) {85/38(51) - 135/65(77)} mmHg
   RR: 13 (10 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                     87 mL
                                                                    438 mL
   PO:
           TF:
   IVF:
                                                                     50 mL
                                                                     75 mL
   Blood products:
                                                                     37 mL
                                                                    363 mL
   Total out:
                                                                    500 mL
                                                                    600 mL
   Urine:
   NG:
   600 mL
   Stool:
   Drains:
   Balance:
                                                                   -413 mL
                                                                   -162 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General: somnolent but arousable
   HEENT: Sclera icteric
   Neck: supple,
   Lungs: Clear to auscultation bilaterally,
   CV: Regular rate and rhythm
   Abdomen: soft, distended, +BS
   Skin: jaundiced
   Labs / Radiology
   57 K/uL
   10.1 g/dL
   158 mg/dL
   8.5 mg/dL
   21 mEq/L
   3.2 mEq/L
   140 mg/dL
   99 mEq/L
   141 mEq/L
   27.8 %
   7.0 K/uL
        [image002.jpg]
                             [**2145-4-1**]  08:30 PM
                             [**2145-4-2**]  02:39 AM
   WBC
   11.1
   7.0
   Hct
   32.0
   27.8
   Plt
   65
   57
   Cr
   9.0
   8.5
   Glucose
   192
   158
   Other labs: PT / PTT / INR:30.4/63.0/3.1, ALT / AST:70/108, Alk Phos /
   T Bili:66/5.4, Lactic Acid:1.7 mmol/L, LDH:186 IU/L, Ca++:9.7 mg/dL,
   Mg++:3.2 mg/dL, PO4:7.2 mg/dL
   Assessment and Plan
   A/P: 55 yo M with h/o hepatitis C cirrhosis who presents with abdominal
   distention, jaundice, and SBP.
   .
   #) SBP:  Etiology of patients presenting symptoms, with marked
   leukocytosis in peritoneal fluid.  Had completed 5d coarse of CTX, but
   continued peritoneal leukocytosis and absence of clinical improvement.
   Was started on vanc/zosy for broad coverage, current d7 of abx
   treatment.  All cultures negative.  Repeat para [**4-1**] shows resolution
   of leukocytosis.
   - f/u c/ re length of treatment as SBP has resolved
   - If continued, dose vancomycin with dialysis
   .
   #) Coffee grounds per NG tube. In setting of epistaxis. Patient with
   h/o grade one varices. Crit 32-> 28.
   - gastrocult NG aspirate
   - will d/w liver
   - [**Hospital1 **] PPI
   .
   #) Renal failure: Worsening renal function, likely due to HRS. Cr
   peaked 9.0 from 0.8 with decompensated liver failure.  Received first
   HD [**4-1**].
   - continue HD per renal
   - cont midodrine and octreotide
   - f/u renal recs
   .
   #) Acute Heptatitis:  Decompensated HCV cirrhosis w/ encephalopathy
   with rising MELD/INR likely precipitated by SBP.  SBP now resolved,
   likely candidate for transplant listing.
   -trend LFTs
   -laculose and rifaximin
   -f/u transplant and liver recs
   .
   # Altered Mental Status: Most likely from hepatic encephalopathy, also
   would consider uremia in the differential.
   - continue HD
   - continue lactulose and uptitrate as tolerated, cont rifaximin
   .
   #) FEN/GI
 Pt unable to take POs, will d/w liver plan for dobhoff/ngt
   for feedings/PO meds
   .
   #) PPx - Pneumoboots, bowel regimen PRN
   .
   Contact: HCP is [**Name (NI) 777**] [**Name (NI) 6397**] sister [**Telephone/Fax (1) 6398**], second HCP is [**Name (NI) 1760**]
   [**Name (NI) 6399**] - sister - (h) [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**] (do not leave
   msg on cell).
   #) Code - Full
   .
   .
   #) Dispo
 pending discussion with liver
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-1**] 08:00 PM
   20 Gauge - [**2145-4-1**] 08:02 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: sisters
   [**Name (NI) 156**] status: Full code
   Disposition: ICU pending discussion with liver

2145-04-03 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2145-4-2**] 05:50 PM
   bedside endoscopy and dobhoff placement
   - Hct stable
   - NGT placed
   - HD performed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-4-2**] 02:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-4-2**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-3**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 59 (55 - 70) bpm
   BP: 102/57(68) {87/43(54) - 137/64(78)} mmHg
   RR: 14 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 73 Inch
             Total In:
                                                                  1,088 mL
                                                                     98 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                    575 mL
                                                                     38 mL
   Blood products:
                                                                    363 mL
   Total out:
                                                                  3,147 mL
                                                                      0 mL
   Urine:
                                                                     47 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,059 mL
                                                                     98 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   48 K/uL
   10.9 g/dL
   135 mg/dL
   8.4 mg/dL
   24 mEq/L
   3.6 mEq/L
   115 mg/dL
   100 mEq/L
   140 mEq/L
   30.2 %
   8.0 K/uL
        [image002.jpg]
                             [**2145-4-1**]  08:30 PM
                             [**2145-4-2**]  02:39 AM
                             [**2145-4-2**]  09:40 AM
                             [**2145-4-2**]  05:16 PM
                             [**2145-4-3**]  03:12 AM
   WBC
   11.1
   7.0
   7.8
   8.0
   Hct
   32.0
   27.8
   29.4
   29.3
   30.2
   Plt
   65
   57
   50
   48
   Cr
   9.0
   8.5
   9.0
   7.2
   8.4
   Glucose
   192
   158
   139
   162
   135
   Other labs: PT / PTT / INR:33.8/63.6/3.5, ALT / AST:90/132, Alk Phos /
   T Bili:77/55.0, Lactic Acid:1.7 mmol/L, Albumin:4.5 g/dL, LDH:186 IU/L,
   Ca++:9.8 mg/dL, Mg++:3.0 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1806**] is a 55 year old male with MELD 47 HCV cirhosis c/b
   encephalopathy, ascites, varices admitted with abdominal distention,
   jaundice, and SBP.
   .
   # SBP:  Etiology of patients presenting symptoms, with marked
   leukocytosis in peritoneal fluid.  Had completed 5d coarse of CTX, but
   continued peritoneal leukocytosis and absence of clinical improvement.
   Was started on vanc/zosy for broad coverage, current d7 of abx
   treatment.  All cultures negative.  Repeat para [**4-1**] shows resolution
   of leukocytosis.
   - Continue vanco per HD protocol and pip/tazo
   - F/u with ID and hepatology regarding vanco and pip/tazo duration (day
   9/?)
   - Check vanco level at HD
   .
   # Coffee grounds per NG tube. In setting of epistaxis. Patient with h/o
   grade one varices. Hct stable at 30 today
   - Trend hct
   - PPI
   .
   # Renal failure: Patient with HRS type 1 in setting of SBP and
   decompensated liver failure. Received HD yesterday.
   - Per renal, plan for HD today
   - Discuss with hepatology and renal need for continued midodrine and
   octreotide.
   .
   # ESLD: Patient with decompensated HCV cirrhosis with MELD >40.
   Currently listed for OLT.
   - Follow-up with hepatology and transplant surgery
   - Continue lactulose and rifaxamin
   - Trend LFTs
   .
   # Altered Mental Status: Most likely from hepatic encephalopathy, SBP,
   HRS.
   - Continue HD
   - Continue lactulose and rifaximin, antimicrobials.
   .
   FEN: Confirm NGT placement, then restart TF when post-pyloric. Replete
   as necessary
   PPx: SCDs, PPI
   Contact: HCP is [**Name (NI) 777**] [**Name (NI) 6397**] sister [**Telephone/Fax (1) 6398**], second HCP is
   - [**Name (NI) 1760**] [**Name (NI) 6399**] - sister - (h) [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**] (do
   not leave msg on cell).
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-1**] 08:00 PM
   20 Gauge - [**2145-4-1**] 08:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-04-04 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   HD [**4-3**]
   Started on tube feeds
   Per transplant surgery, patient now listed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-4-2**] 02:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-4-3**] 07:55 AM
   Piperacillin - [**2145-4-3**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-4**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 59 (50 - 60) bpm
   BP: 93/51(61) {82/42(50) - 117/69(78)} mmHg
   RR: 16 (11 - 17) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 73 Inch
             Total In:
                                                                    978 mL
                                                                    633 mL
   PO:
             TF:
                                                                     53 mL
                                                                    141 mL
   IVF:
                                                                    445 mL
                                                                    412 mL
   Blood products:
   Total out:
                                                                  2,935 mL
                                                                    912 mL
   Urine:
                                                                     35 mL
                                                                     12 mL
   NG:
   Stool:
                                                                    900 mL
   Drains:
   Balance:
                                                                 -1,957 mL
                                                                   -279 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General:
   Chest:
   CV:
   Abd:
   Neurologic: awake, alert, knows president
   Labs / Radiology
   46 K/uL
   11.7 g/dL
   161 mg/dL
   7.5 mg/dL
   23 mEq/L
   3.7 mEq/L
   94 mg/dL
   104 mEq/L
   144 mEq/L
   32.4 %
   9.4 K/uL
        [image002.jpg]
                             [**2145-4-1**]  08:30 PM
                             [**2145-4-2**]  02:39 AM
                             [**2145-4-2**]  09:40 AM
                             [**2145-4-2**]  05:16 PM
                             [**2145-4-3**]  03:12 AM
                             [**2145-4-4**]  03:22 AM
   WBC
   11.1
   7.0
   7.8
   8.0
   9.4
   Hct
   32.0
   27.8
   29.4
   29.3
   30.2
   32.4
   Plt
   65
   57
   50
   48
   46
   Cr
   9.0
   8.5
   9.0
   7.2
   8.4
   7.5
   Glucose
   192
   158
   139
   162
   135
   161
   Other labs: PT / PTT / INR:35.1/63.9/3.7, ALT / AST:87/132, Alk Phos /
   T Bili:93/55.4, Lactic Acid:1.7 mmol/L, Albumin:4.3 g/dL, LDH:215 IU/L,
   Ca++:9.9 mg/dL, Mg++:2.9 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1806**] is a 55 year old male with MELD 47 HCV cirhosis c/b
   encephalopathy, ascites, varices admitted with abdominal distention,
   jaundice, and SBP.
   .
   # SBP:  Etiology of patients presenting symptoms, with marked
   leukocytosis in peritoneal fluid.  Had completed 5d coarse of CTX, but
   continued peritoneal leukocytosis and absence of clinical improvement.
   Was started on vanc/zosy for broad coverage, current d7 of abx
   treatment.  All cultures negative.  Repeat para [**4-1**] showed resolution
   of leukocytosis.
   - Continue vanco per HD protocol and pip/tazo
   - F/u with ID and hepatology regarding vanco and pip/tazo duration (day
   11/?); continue for now.
   - Vanco level 28.9 [**4-3**]
   .
   # Coffee grounds per NG tube. In setting of epistaxis. Patient with h/o
   grade one varicies. Hct stable at 32.4 today
   - Trend hct
   - PPI
   .
   # Renal failure: Patient with HRS type 1 in setting of SBP and
   decompensated liver failure. Received HD yesterday.
   - Consider holding HD today as Cr 7.5 and BUN is 94
   - Discuss with hepatology and renal need for continued midodrine and
   octreotide.
   .
   # ESLD: Patient with decompensated HCV cirrhosis with MELD >40.
   Currently listed for OLT.
   - Follow-up with hepatology and transplant surgery
   - Continue lactulose and rifaxamin
   - Trend LFTs
   .
   # Altered Mental Status: Most likely from hepatic encephalopathy, SBP,
   HRS.
   - Continue HD
   - Continue lactulose and rifaximin, antimicrobials.
   .
   FEN: Confirm NGT placement, then restart TF when post-pyloric. Replete
   as necessary
   PPx: SCDs, PPI
   Contact: HCP is [**Name (NI) 777**] [**Name (NI) 6397**] sister [**Telephone/Fax (1) 6398**], second HCP is
   - [**Name (NI) 1760**] [**Name (NI) 6399**] - sister - (h) [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**] (do
   not leave msg on cell).
   Dispo: Discuss disposition with transplant surgery and liver service.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-3**] 06:43 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-1**] 08:00 PM
   20 Gauge - [**2145-4-1**] 08:02 PM
   Prophylaxis:
   DVT:  SCDs
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Physical Exam
   General:  somewhat somnolent, rouses to voice, sitting up in bed
   Chest: coarse BS bl
   CV: RRR, S1S2
   Abd: Soft, nontender, distended
   Skin: markedly icteric
   Neurologic: awake, alert, knows president.  Oriented x 2 ([**2145-2-2**])
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2145-4-4**] 11:37 ------

2145-04-05 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**4-3**]
   - TF started
   - Per transplant [**Doctor First Name 91**], patient now listed.
   [**4-4**]
   - ID recommends 2 weeks of abx
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-4-2**] 02:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-4-4**] 07:36 AM
   Piperacillin - [**2145-4-4**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-4-4**] 07:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-5**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.3
   HR: 56 (52 - 58) bpm
   BP: 97/56(64) {78/35(45) - 129/89(92)} mmHg
   RR: 16 (12 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 73 Inch
             Total In:
                                                                  2,183 mL
                                                                    553 mL
   PO:
                                                                    150 mL
                                                                     60 mL
   TF:
                                                                    768 mL
                                                                    326 mL
   IVF:
                                                                    705 mL
                                                                     36 mL
   Blood products:
   Total out:
                                                                    912 mL
                                                                    820 mL
   Urine:
                                                                     12 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,271 mL
                                                                   -267 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   50 K/uL
   12.0 g/dL
   180 mg/dL
   9.0 mg/dL
   22 mEq/L
   3.5 mEq/L
   121 mg/dL
   104 mEq/L
   145 mEq/L
   34.9 %
   11.2 K/uL
        [image002.jpg]
                             [**2145-4-1**]  08:30 PM
                             [**2145-4-2**]  02:39 AM
                             [**2145-4-2**]  09:40 AM
                             [**2145-4-2**]  05:16 PM
                             [**2145-4-3**]  03:12 AM
                             [**2145-4-4**]  03:22 AM
                             [**2145-4-5**]  03:33 AM
   WBC
   11.1
   7.0
   7.8
   8.0
   9.4
   11.2
   Hct
   32.0
   27.8
   29.4
   29.3
   30.2
   32.4
   34.9
   Plt
   65
   57
   50
   48
   46
   50
   Cr
   9.0
   8.5
   9.0
   7.2
   8.4
   7.5
   9.0
   Glucose
   192
   158
   139
   162
   135
   161
   180
   Other labs: PT / PTT / INR:33.3/65.3/3.5, ALT / AST:83/112, Alk Phos /
   T Bili:115/55.0, Lactic Acid:1.7 mmol/L, Albumin:4.2 g/dL, LDH:217
   IU/L, Ca++:10.1 mg/dL, Mg++:3.0 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1806**] is a 55 year old male with MELD 47 HCV cirhosis c/b
   encephalopathy, ascites, varices admitted with abdominal distention,
   jaundice, and SBP.
   .
   # SBP:  Etiology of patients presenting symptoms, with marked
   leukocytosis in peritoneal fluid.  Had completed 5d coarse of CTX, but
   continued peritoneal leukocytosis and absence of clinical improvement.
   Was started on vanc/zosy for broad coverage, current d7 of abx
   treatment.  All cultures negative.  Repeat para [**4-1**] showed resolution
   of leukocytosis.
   - Continue vanco per HD protocol and pip/tazo
   - F/u with ID and hepatology regarding vanco and pip/tazo duration (day
   11/?); continue for now.
   - Vanco level 28.9 [**4-3**]
   .
   # Coffee grounds per NG tube. In setting of epistaxis. Patient with h/o
   grade one varicies. Hct stable at 32.4 today
   - Trend hct
   - PPI
   .
   # Renal failure: Patient with HRS type 1 in setting of SBP and
   decompensated liver failure. Received HD yesterday.
   - Consider holding HD today as Cr 7.5 and BUN is 94
   - Discuss with hepatology and renal need for continued midodrine and
   octreotide.
   .
   # ESLD: Patient with decompensated HCV cirrhosis with MELD >40.
   Currently listed for OLT.
   - Follow-up with hepatology and transplant surgery
   - Continue lactulose and rifaxamin
   - Trend LFTs
   .
   # Altered Mental Status: Most likely from hepatic encephalopathy, SBP,
   HRS.
   - Continue HD
   - Continue lactulose and rifaximin, antimicrobials.
   .
   FEN: Confirm NGT placement, then restart TF when post-pyloric. Replete
   as necessary
   PPx: SCDs, PPI
   Contact: HCP is [**Name (NI) 777**] [**Name (NI) 6397**] sister [**Telephone/Fax (1) 6398**], second HCP is
   - [**Name (NI) 1760**] [**Name (NI) 6399**] - sister - (h) [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**] (do
   not leave msg on cell).
   Dispo: Discuss disposition with transplant surgery and liver service.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-5**] 03:57 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-1**] 08:00 PM
   20 Gauge - [**2145-4-1**] 08:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-04-06 07:07:00 Physician Resident Progress Note
Chief Complaint: hepatic failure, encephalopathy, hepatorenal syndrome
   24 Hour Events:
   Remains encephalopathic. Otherwise no significant 24 hour events.
   Subjectively, pt complains of thirst.
   MELD 48
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical records
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2145-4-4**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-4-5**] 08:31 PM
   Infusions:
   Tube feeds
   Other ICU medications:
   Other medications:
   Vancomycin 1 gm IV qHD
   Octreotide 200 mcg SQ q8h
   Midodrine 12.5 mg tid
   Rifaximin 400 mg tid
   Lactulose 45 ml QID
   Pantoprazole 40 mg IV q24h
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-6**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.6
C (96
   HR: 49 (49 - 56) bpm
   BP: 84/48(55) {84/46(55) - 106/89(93)} mmHg
   RR: 11 (11 - 17) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 73 Inch
             Total In:
                                                                  1,865 mL
                                                                    355 mL
   PO:
                                                                    180 mL
             TF:
                                                                  1,080 mL
                                                                    320 mL
   IVF:
                                                                    220 mL
                                                                     36 mL
   Blood products:
   Total out:
                                                                  1,425 mL
                                                                      0 mL
   Urine:
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    440 mL
                                                                    355 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   Gen
 encephalopathic, answers
[**Last Name (un) 6549**]
 to place, date. Knows it is
   [**2144**]. Able to follow commands after prompting.
   HEENT
 sclerae icteric, slightly dry MM, OP clear, JVD difficult to
   assess but not clearly distended
   CV
 RRR, no m/r/g appreciated
   Lungs
 listened anteriorly, CTA b/l without w/r/r
   Abd
 Distended, very slight tenderness to palpation throughout, + BS
   Ext
 2+ edema, WWP, could not assess for asterixis as arms in
   restraints
   Lines
 triple lumen HD catheter on right with dressing c/d/I, no
   surrounding erythema, no expressible pus
   Labs / Radiology
   40 K/uL
   12.1 g/dL
   180 mg/dL
   11.4mg/dL
   20 mEq/L
   4.2 mEq/L
   147mg/dL
   106 mEq/L
   147 mEq/L
   35.2 %
   14.2 K/uL
        [image002.jpg]
                             [**2145-4-1**]  08:30 PM
                             [**2145-4-2**]  02:39 AM
                             [**2145-4-2**]  09:40 AM
                             [**2145-4-2**]  05:16 PM
                             [**2145-4-3**]  03:12 AM
                             [**2145-4-4**]  03:22 AM
                             [**2145-4-5**]  03:33 AM
                             [**2145-4-6**]  05:57 AM
   WBC
   11.1
   7.0
   7.8
   8.0
   9.4
   11.2
   14.2
   Hct
   32.0
   27.8
   29.4
   29.3
   30.2
   32.4
   34.9
   35.2
   Plt
   65
   57
   50
   48
   46
   50
   40
   Cr
   9.0
   8.5
   9.0
   7.2
   8.4
   7.5
   9.0
   Glucose
   192
   158
   139
   162
   135
   161
   180
   Other labs: PT / PTT / INR:32.8/68.2/3.4, ALT / AST:820/116, Alk Phos /
   T Bili:122/51.0, Lactic Acid:1.7 mmol/L, Albumin:4.2 g/dL, LDH:217
   IU/L, Ca++:10.2 mg/dL, Mg++:3.3 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1806**] is a 55 year old male with MELD 47 HCV cirhosis c/b
   encephalopathy, ascites, varices admitted with abdominal distention,
   jaundice, and SBP.
   # ESLD: Patient with decompensated HCV cirrhosis with MELD >40 in the
   setting of SBP, HRS. Currently listed for OLT. Remains encephalopathic.
   - Continue lactulose and rifaxamin.
   - Trend LFTs.
   - Appreciate hepatology and transplant surgery following.
   # SBP:  Improving. Still diffusely tender to palpation on exam but no
   fevers. WBC higher today at 14.2, may be reactive in setting of liver
   disease. Repeat para [**4-1**] showed resolution of leukocytosis and
   cultures remain no growth to date.
   - Continue vanco per HD protocol and pip/tazo (day 13/14).
   - Follow vancomycin levels.
   - Monitor WBC count, fever curve.
   - CIS and repeat dx para if spikes fever or if worsening abd exam.
   # Renal failure: Patient with HRS type 1 in setting of SBP and
   decompensated liver failure. No signs of renal recovery thus far.
   - On HD and midodrine/octreotide.
   - Appreciate renal following.
   - Continue to monitor lytes, BUN/Cr. ? phos binder given elevated phos.
   # Hypernatremia
 FWD based on wt > 3L. Pt does complain of thirst on
   exam.
   - Increase free water boluses via tube feeds from 50 cc q4h to 250 cc
   q4h.
   - Recheck serum Na in pm.
   # Altered Mental Status: Most likely from hepatic encephalopathy, SBP,
   HRS. Stable.
   - Continue HD
   - Continue lactulose and rifaximin, antimicrobials.
   # Coffee grounds per NG tube:  Several days ago, now s/p NG tube
   placement without further coffee grounds. Stable. EGD [**4-2**] revealed
   portal HTN gastropathy and 3 grade II varices. Coffee grounds seen in
   esophagus and stomach thought to be [**12-21**] nose bleed.
   - Trend hct
   - IV PPI
   - Send active T&S
   .
   FEN: TFs. Replete as necessary
   PPx: SCDs, PPI
   Contact: HCP is [**Name (NI) 777**] [**Name (NI) 6397**] sister [**Telephone/Fax (1) 6398**], second HCP is
   - [**Name (NI) 1760**] [**Name (NI) 6399**] - sister - (h) [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**] (do
   not leave msg on cell).
   Dispo: ICU for now, possible callout to liver service.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-6**] 12:30 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-1**] 08:00 PM
   20 Gauge - [**2145-4-1**] 08:02 PM
   Prophylaxis:
   DVT:  SCDs
   Stress ulcer:  IV PPI
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: possible callout to liver service.

2145-04-07 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   dialyzed
   increased free water given sodium
   needed ivf and albumin for hypotnesion, started neo for map<60, likely
   in setting starting hd, along with ? brewing infection
   pan cultured, no paracentesis given info would only adversely affect
   his transplant status
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2145-4-4**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-4-6**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-7**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 54 (47 - 56) bpm
   BP: 94/37(51) {70/33(42) - 107/81(84)} mmHg
   RR: 13 (10 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 73 Inch
             Total In:
                                                                  4,200 mL
                                                                  1,241 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    326 mL
   IVF:
                                                                  1,960 mL
                                                                    296 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                      5 mL
                                                                    700 mL
   Urine:
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,195 mL
                                                                    541 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General: somnolent but arousable
   HEENT: Sclera icteric
   Neck: supple,
   Lungs: Clear to auscultation bilaterally,
   CV: Regular rate and rhythm
   Abdomen: soft, distended, +BS
   Skin: jaundiced
   Labs / Radiology
   42 K/uL
   11.9 g/dL
   168 mg/dL
   9.0 mg/dL
   23 mEq/L
   3.8 mEq/L
   101 mg/dL
   102 mEq/L
   142 mEq/L
   34.4 %
   18.9 K/uL
        [image002.jpg]
                             [**2145-4-1**]  08:30 PM
                             [**2145-4-2**]  02:39 AM
                             [**2145-4-2**]  09:40 AM
                             [**2145-4-2**]  05:16 PM
                             [**2145-4-3**]  03:12 AM
                             [**2145-4-4**]  03:22 AM
                             [**2145-4-5**]  03:33 AM
                             [**2145-4-6**]  05:57 AM
                             [**2145-4-6**]  10:04 PM
                             [**2145-4-7**]  03:28 AM
   WBC
   11.1
   7.0
   7.8
   8.0
   9.4
   11.2
   14.2
   18.9
   Hct
   32.0
   27.8
   29.4
   29.3
   30.2
   32.4
   34.9
   35.2
   34.4
   Plt
   65
   57
   50
   48
   46
   50
   40
   42
   Cr
   9.0
   8.5
   9.0
   7.2
   8.4
   7.5
   9.0
   11.4
   8.4
   9.0
   Glucose
   192
   158
   139
   162
   135
   161
   180
   166
   144
   168
   Other labs: PT / PTT / INR:32.8/68.2/3.4, ALT / AST:83/116, Alk Phos /
   T Bili:122/52.2, Lactic Acid:1.7 mmol/L, Albumin:4.0 g/dL, LDH:243
   IU/L, Ca++:9.7 mg/dL, Mg++:3.0 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1806**] is a 55 year old male with MELD 47 HCV cirhosis c/b
   encephalopathy, ascites, varices admitted with abdominal distention,
   jaundice, and SBP.
   # ESLD: Patient with decompensated HCV cirrhosis with MELD >40 in the
   setting of SBP, HRS. Currently listed for OLT. Remains encephalopathic.
   - Continue lactulose and rifaxamin.
   - Trend LFTs.
   - Continue lactulose and rifaximin, antimicrobials
   - Appreciate hepatology and transplant surgery following.
   # Hypotension: related to HD. Currently on pressors.
   - Monitor and continue HD without UF.
   - f/u cultures
   # SBP:  Improving. Still diffusely tender to palpation on exam but no
   fevers. WBC higher today at 14.2, may be reactive in setting of liver
   disease. Repeat para [**4-1**] showed resolution of leukocytosis and
   cultures remain no growth to date.
   - Continue vanco per HD protocol and pip/tazo (day 13/14).
   - Follow vancomycin levels.
   - Monitor WBC count, fever curve.
   - CIS and repeat dx para if spikes fever or if worsening abd exam.
   # Renal failure: Patient with HRS type 1 in setting of SBP and
   decompensated liver failure. No signs of renal recovery thus far.
   - On HD and midodrine/octreotide.
   - Appreciate renal following.
   - Continue to monitor lytes, BUN/Cr. ? phos binder given elevated phos.
   # Hypernatremia
 FWD based on wt > 3L. Pt does complain of thirst on
   exam.
   - Increase free water boluses via tube feeds from 50 cc q4h to 250 cc
   q4h.
   - Recheck serum Na in pm.
   # Coffee grounds per NG tube:  Several days ago, now s/p NG tube
   placement without further coffee grounds. Stable. EGD [**4-2**] revealed
   portal HTN gastropathy and 3 grade II varices. Coffee grounds seen in
   esophagus and stomach thought to be [**12-21**] nose bleed.
   - Trend hct
   - IV PPI
   - Send active T&S
   FEN: TFs. Replete as necessary
   PPx: SCDs, PPI
   Contact: HCP is [**Name (NI) 777**] [**Name (NI) 6397**] sister [**Telephone/Fax (1) 6398**], second HCP is
   - [**Name (NI) 1760**] [**Name (NI) 6399**] - sister - (h) [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**] (do
   not leave msg on cell).
   Dispo: ICU for now, possible callout to liver service.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-7**] 12:02 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-1**] 08:00 PM
   20 Gauge - [**2145-4-6**] 07:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-04-08 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - spoke to sisters about paracentesis; they demured for now, wanted to
   see how he did, seemed concerned about how procedure/findings would
   affect chances of received transplant. Did say it was OK to do
   procedure emergently if needed.
   - p.m. wbc stable 19.7
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-4-7**] 07:54 AM
   Piperacillin - [**2145-4-7**] 08:00 PM
   Infusions:
   Phenylephrine - 2.6 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-8**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 56 (53 - 57) bpm
   BP: 84/44(53) {84/44(53) - 112/65(75)} mmHg
   RR: 19 (13 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 73 Inch
             Total In:
                                                                  3,703 mL
                                                                  1,479 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    332 mL
   IVF:
                                                                  1,623 mL
                                                                    587 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  1,400 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,303 mL
                                                                  1,479 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ////
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   32 K/uL
   11.9 g/dL
   168 mg/dL
   9.0 mg/dL
   23 mEq/L
   3.8 mEq/L
   101 mg/dL
   102 mEq/L
   142 mEq/L
   34.5 %
   19.7 K/uL
        [image002.jpg]
                             [**2145-4-2**]  02:39 AM
                             [**2145-4-2**]  09:40 AM
                             [**2145-4-2**]  05:16 PM
                             [**2145-4-3**]  03:12 AM
                             [**2145-4-4**]  03:22 AM
                             [**2145-4-5**]  03:33 AM
                             [**2145-4-6**]  05:57 AM
                             [**2145-4-6**]  10:04 PM
                             [**2145-4-7**]  03:28 AM
                             [**2145-4-7**]  05:30 PM
   WBC
   7.0
   7.8
   8.0
   9.4
   11.2
   14.2
   18.9
   19.7
   Hct
   27.8
   29.4
   29.3
   30.2
   32.4
   34.9
   35.2
   34.4
   34.5
   Plt
   57
   50
   48
   46
   50
   40
   42
   32
   Cr
   8.5
   9.0
   7.2
   8.4
   7.5
   9.0
   11.4
   8.4
   9.0
   Glucose
   158
   139
   162
   135
   161
   180
   166
   144
   168
   Other labs: PT / PTT / INR:33.1/76.0/3.5, ALT / AST:83/116, Alk Phos /
   T Bili:122/52.2, Differential-Neuts:87.6 %, Band:0.0 %, Lymph:4.0 %,
   Mono:5.8 %, Eos:2.5 %, Lactic Acid:1.7 mmol/L, Albumin:4.0 g/dL,
   LDH:243 IU/L, Ca++:9.7 mg/dL, Mg++:3.0 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1806**] is a 55 year old male with MELD 47 HCV cirhosis c/b
   encephalopathy, ascites, varices admitted with abdominal distention,
   jaundice, and SBP.
   # ESLD: Patient with decompensated HCV cirrhosis with MELD >40 in the
   setting of SBP, HRS. Currently listed for OLT. Remains encephalopathic.
   - Continue lactulose and rifaxamin.
   - Trend LFTs.
   - Continue lactulose and rifaximin, antimicrobials
   - Appreciate hepatology and transplant surgery following.
   # Hypotension: related to HD. Currently on pressors.
   - Monitor and continue HD without UF.
   - f/u cultures
   # SBP:  Improving. Still diffusely tender to palpation on exam but no
   fevers. WBC higher today at 14.2, may be reactive in setting of liver
   disease. Repeat para [**4-1**] showed resolution of leukocytosis and
   cultures remain no growth to date.
   - Continue vanco per HD protocol and pip/tazo (day 13/14). Consider
   broadening abx and monitor wbc
   - Follow vancomycin levels.
   - Monitor WBC count, fever curve.
   - consider para
   # Renal failure: Patient with HRS type 1 in setting of SBP and
   decompensated liver failure. No signs of renal recovery thus far.
   - On HD and midodrine/octreotide.
   - Appreciate renal following.
   - Continue to monitor lytes, BUN/Cr. ? phos binder given elevated phos.
   # Hypernatremia
 FWD based on wt > 3L. Pt does complain of thirst on
   exam.
   - Increase free water boluses via tube feeds from 50 cc q4h to 250 cc
   q4h.
   - Recheck serum Na in pm.
   # Coffee grounds per NG tube:  Several days ago, now s/p NG tube
   placement without further coffee grounds. Stable. EGD [**4-2**] revealed
   portal HTN gastropathy and 3 grade II varices. Coffee grounds seen in
   esophagus and stomach thought to be [**12-21**] nose bleed.
   - Trend hct
   - IV PPI
   - Send active T&S
   FEN: TFs. Replete as necessary
   PPx: SCDs, PPI
   Contact: HCP is [**Name (NI) 777**] [**Name (NI) 6397**] sister [**Telephone/Fax (1) 6398**], second HCP is
   - [**Name (NI) 1760**] [**Name (NI) 6399**] - sister - (h) [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**] (do
   not leave msg on cell).
   Dispo: ICU
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-8**] 12:01 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-1**] 08:00 PM
   20 Gauge - [**2145-4-6**] 07:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-04-09 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   family declined para/a line
   cvo2 66, lactate 1.1
   HD
   FFP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2145-4-7**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-4-8**] 07:45 PM
   Infusions:
   Phenylephrine - 3.4 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-9**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 59 (52 - 63) bpm
   BP: 87/45(56) {81/43(52) - 101/63(70)} mmHg
   RR: 19 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 73 Inch
    CVP: 10 (5 - 94)mmHg
   Total In:
                                                                  4,141 mL
                                                                  1,046 mL
   PO:
   TF:
                                                                  1,080 mL
                                                                    302 mL
   IVF:
                                                                  1,310 mL
                                                                    185 mL
   Blood products:
                                                                    556 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,141 mL
                                                                  1,046 mL
   Respiratory support
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   34 K/uL
   11.7 g/dL
   158 mg/dL
   7.8 mg/dL
   24 mEq/L
   3.6 mEq/L
   78 mg/dL
   99 mEq/L
   139 mEq/L
   32.8 %
   16.4 K/uL
        [image002.jpg]
                             [**2145-4-2**]  05:16 PM
                             [**2145-4-3**]  03:12 AM
                             [**2145-4-4**]  03:22 AM
                             [**2145-4-5**]  03:33 AM
                             [**2145-4-6**]  05:57 AM
                             [**2145-4-6**]  10:04 PM
                             [**2145-4-7**]  03:28 AM
                             [**2145-4-7**]  05:30 PM
                             [**2145-4-8**]  03:33 AM
                             [**2145-4-9**]  03:09 AM
   WBC
   8.0
   9.4
   11.2
   14.2
   18.9
   19.7
   20.1
   16.4
   Hct
   29.3
   30.2
   32.4
   34.9
   35.2
   34.4
   34.5
   33.7
   32.8
   Plt
   48
   46
   50
   40
   42
   32
   43
   34
   Cr
   7.2
   8.4
   7.5
   9.0
   11.4
   8.4
   9.0
   10.8
   7.8
   Glucose
   162
   135
   161
   180
   166
   144
   168
   158
   158
   Other labs: PT / PTT / INR:32.5/84.5/3.4, ALT / AST:82/117, Alk Phos /
   T Bili:138/53.6, Differential-Neuts:87.6 %, Band:0.0 %, Lymph:4.0 %,
   Mono:5.8 %, Eos:2.5 %, Lactic Acid:1.1 mmol/L, Albumin:4.0 g/dL,
   LDH:238 IU/L, Ca++:9.4 mg/dL, Mg++:2.4 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1806**] is a 55 year old male with MELD 58 HCV cirhosis c/b
   encephalopathy, ascites, admitted SBP and was on transplant list but
   developed hypoTN and leukocytosis.
   # Hypotension, leukocytosis: In the presence of increased abdominal
   dullness, there is strong concern for SBP or other source of infection
   (especially given new rash). Currently on phenylephrine. BP better when
   left side down. WBCs improving
   - family declines para
   - monitor and continue abx given the uncertainty in etiology of WBCs
   - multidisciplinary team meeting to address need for para and
   transplant list status
   # Macular blanching erythrematus rash in right upper extremity: Dx:
   drug eruption (? zosyn) vs skin infection.
   - will monitor and consult derm
   - continue vanc and if eos on diff will change zosyn to [**Last Name (un) **]
   # SBP: repeat para negative on [**4-1**].
   - vanco per HD protocol and pip/tazo (day 15)
   - repeat para: family declined repeat procedure;
   # ESLD: Patient with decompensated HCV cirrhosis with MELD 58 in the
   setting of SBP, HRS. Remains encephalopathic.
   - Continue lactulose and rifaxamin.
   - Trend LFTs.
   - Continue lactulose and rifaximin, antimicrobials
   - ?? transplant list standing given strong possibility of sepsis
   - Appreciate hepatology and transplant surgery following.
   # Renal failure: Patient with HRS type 1 in setting of SBP and
   decompensated liver failure. No signs of renal recovery thus far.
   - On HD and midodrine/octreotide.
   - Appreciate renal following.
   - Continue to monitor lytes, BUN/Cr. ? phos binder given elevated phos.
   FEN: TFs. Replete as necessary
   PPx: SCDs, PPI
   Contact: HCP is [**Name (NI) 777**] [**Name (NI) 6397**] sister [**Telephone/Fax (1) 6398**], second HCP is
   - [**Name (NI) 1760**] [**Name (NI) 6399**] - sister - (h) [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**] (do
   not leave msg on cell).
   Dispo: ICU
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-8**] 11:59 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-1**] 08:00 PM
   20 Gauge - [**2145-4-6**] 07:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-04-10 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname 1806**] is a 55 year old male with MELD 58 HCV
   cirhosis c/b encephalopathy, ascites, admitted SBP and was on
   transplant list but developed hypoTN and leukocytosis.
   24 Hour Events:
 PARACENTESIS - At [**2145-4-9**] 12:50 PM
 WOUND CULTURE - At [**2145-4-9**] 01:20 PM
   ascites fluid sent for anaerobic, aerobic, fungal, cx, gram stain
   - Diagnostic para negative.
   - Derm - rash on arm [**12-21**] BP cuff.  If rash starts to spread, would be
   more concerned for drug (pip/tazo) rash.
   - Per liver fellow note, pt de-listed yesterday.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-4-8**] 07:45 PM
   Piperacillin - [**2145-4-9**] 08:21 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-10**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.9
   HR: 55 (53 - 61) bpm
   BP: 94/55(63) {68/36(46) - 121/79(89)} mmHg
   RR: 17 (15 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 73 Inch
    CVP: 52 (52 - 57)mmHg
   Total In:
                                                                  3,504 mL
                                                                  1,072 mL
   PO:
   TF:
                                                                  1,080 mL
                                                                    320 mL
   IVF:
                                                                    689 mL
                                                                    207 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,504 mL
                                                                  1,072 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, icteric
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Distended, Obese
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   51 K/uL
   12.2 g/dL
   154 mg/dL
   11.0 mg/dL
   21 mEq/L
   3.9 mEq/L
   105 mg/dL
   96 mEq/L
   135 mEq/L
   34.1 %
   16.8 K/uL
        [image002.jpg]
                             [**2145-4-3**]  03:12 AM
                             [**2145-4-4**]  03:22 AM
                             [**2145-4-5**]  03:33 AM
                             [**2145-4-6**]  05:57 AM
                             [**2145-4-6**]  10:04 PM
                             [**2145-4-7**]  03:28 AM
                             [**2145-4-7**]  05:30 PM
                             [**2145-4-8**]  03:33 AM
                             [**2145-4-9**]  03:09 AM
                             [**2145-4-10**]  04:40 AM
   WBC
   8.0
   9.4
   11.2
   14.2
   18.9
   19.7
   20.1
   16.4
   16.8
   Hct
   30.2
   32.4
   34.9
   35.2
   34.4
   34.5
   33.7
   32.8
   34.1
   Plt
   48
   46
   50
   40
   42
   32
   43
   34
   51
   Cr
   8.4
   7.5
   9.0
   11.4
   8.4
   9.0
   10.8
   7.8
   11.0
   Glucose
   135
   161
   180
   166
   144
   168
   158
   158
   154
   Other labs: PT / PTT / INR:32.5/84.5/3.4, ALT / AST:84/114, Alk Phos /
   T Bili:139/52.8, Differential-Neuts:83.8 %, Band:0.0 %, Lymph:6.8 %,
   Mono:6.3 %, Eos:2.6 %, Lactic Acid:1.1 mmol/L, Albumin:4.0 g/dL,
   LDH:238 IU/L, Ca++:10.1 mg/dL, Mg++:2.6 mg/dL, PO4:7.1 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1806**] is a 55 year old male with MELD 58 HCV cirhosis c/b
   encephalopathy, ascites, admitted SBP and was on transplant list but
   developed hypoTN and leukocytosis.
   # Hypotension, leukocytosis: Initially concerning for SBP with new
   resistant organism, e.g. ESBL, but paracentesis performed on [**2145-4-9**]
   with negative gram stain.  WBC count now trending down but
   phenylephrine requirement remains stable.   BP better when left side
   down.
   - f/u paracentesis and blood cultures
   - f/u ID reccs regarding continuation of antibiotics
   - weane phenylephrine as tolerated
   # SBP: Para negative on [**4-1**] and repeat para negative on [**4-9**].
   - vanco per HD protocol and pip/tazo (day 16)
   - ID reccs regarding course of antibiotics
   # ESLD: Patient with decompensated HCV cirrhosis with MELD 58 in the
   setting of SBP, HRS. Remains encephalopathic.  Per hepatology
   attending, he is currently on the transplant list as of [**2145-4-10**].
   - Continue lactulose and rifaxamin.
   - Trend LFTs.
   - Continue lactulose and rifaximin, antimicrobials
   - Appreciate hepatology and transplant surgery following.
   # Renal failure: Patient with HRS type 1 in setting of SBP and
   decompensated liver failure. No signs of renal recovery thus far.
   - On HD and midodrine/octreotide.
   - Appreciate renal following.
   - Continue to monitor lytes, BUN/Cr. ? phos binder given elevated phos.
   # Macular blanching erythrematus rash in right upper extremity: Dx:
   drug eruption (? zosyn) vs skin infection.
   - will monitor and consult derm
   - continue vanc and if eos on diff will change zosyn to [**Last Name (un) **]
   FEN: TFs. Replete as necessary
   PPx: SCDs, PPI
   Contact: HCP is [**Name (NI) 777**] [**Name (NI) 6397**] sister [**Telephone/Fax (1) 6398**], second HCP is [**Name (NI) 1760**]
   [**Name (NI) 6399**] - sister - (h) [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**] (do not leave
   msg on cell).
   Dispo: ICU
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-9**] 11:59 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-1**] 08:00 PM
   20 Gauge - [**2145-4-6**] 07:12 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   55M HCV c/b ESLD, HRS, peritonitis, encephalopathy admitted for
   progressive somnolence and initiation of HD. Encephalopathy stable,
   tolerating HD, awaiting liver. WBC down, pressor requirement stable.
   Events:
   remains on levo
   positive 3.5 L
   Exam notable for Tm 98.4 BP 94/55 HR 55 RR 16 with sat 100 on RA.
   Obese man, encephalopathic though more alert today per team who is
   familiar with patient.
   Lungs- Coarse BS B.
   CV- RRR s1s2.
   Abd - soft +BS.
   Ext- 2+ edema,
   Skin- marked jaundice.
   Labs notable for WBC 16.8K, HCT 34 , Cr 11
   ESLD - MELD >50. Case discussed with Liver team this morning.  They
   confirmed he is on the transplant list.  Continue to manage
   encephalopathy with lactulose and rifaximin via NGT.
   Cont to require same dose of neo for BP support;
   Paracentesis performed.  GS neg.  170WBCs, 115RBCs. f/u cx.
   Please see resident not for remainder of plan as outlined above.
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Last Name (NamePattern1) 911**], MD
   on:[**2145-4-10**] 14:05 ------

2145-04-11 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2145-4-10**] 04:19 PM
   from HD VIP port
   [**4-9**]:
   - Diagnostic para negative.
   - Derm - rash on arm [**12-21**] BP cuff.  If rash starts to spread, would be
   more concerned for drug (pip/tazo) rash.
   - Per liver fellow note, pt de-listed yesterday.
   [**4-10**]
   - back on transplant list (confirmed with liver attending)
   - stopped vanc/zosyn per ID given neg cultures, improving white count
   - drawing blood cx off HD line and periphery daily per ID
   - stayed on levo
   - changed BP cuff to regular size b/c large cuff seemed to be [**Location (un) 118**]
   artifically low BPs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-4-8**] 07:45 PM
   Piperacillin - [**2145-4-10**] 07:40 AM
   Vancomycin - [**2145-4-10**] 12:30 PM
   Infusions:
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-4-10**] 07:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-11**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 65 (50 - 65) bpm
   BP: 86/47(56) {77/25(39) - 109/72(79)} mmHg
   RR: 21 (14 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 3 (3 - 3)mmHg
   Total In:
                                                                  4,541 mL
                                                                  1,230 mL
   PO:
   TF:
                                                                  1,083 mL
                                                                    330 mL
   IVF:
                                                                  1,473 mL
                                                                    341 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                    875 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,666 mL
                                                                  1,230 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   51 K/uL
   11.8 g/dL
   130 mg/dL
   7.8 mg/dL
   24 mEq/L
   3.6 mEq/L
   72 mg/dL
   98 mEq/L
   137 mEq/L
   33.6 %
   13.5 K/uL
        [image002.jpg]
                             [**2145-4-4**]  03:22 AM
                             [**2145-4-5**]  03:33 AM
                             [**2145-4-6**]  05:57 AM
                             [**2145-4-6**]  10:04 PM
                             [**2145-4-7**]  03:28 AM
                             [**2145-4-7**]  05:30 PM
                             [**2145-4-8**]  03:33 AM
                             [**2145-4-9**]  03:09 AM
                             [**2145-4-10**]  04:40 AM
                             [**2145-4-11**]  05:25 AM
   WBC
   9.4
   11.2
   14.2
   18.9
   19.7
   20.1
   16.4
   16.8
   13.5
   Hct
   32.4
   34.9
   35.2
   34.4
   34.5
   33.7
   32.8
   34.1
   33.6
   Plt
   46
   50
   40
   42
   32
   43
   34
   51
   Cr
   7.5
   9.0
   11.4
   8.4
   9.0
   10.8
   7.8
   11.0
   7.8
   Glucose
   161
   180
   166
   144
   168
   158
   158
   154
   130
   Other labs: PT / PTT / INR:31.1/77.3/3.2, ALT / AST:78/105, Alk Phos /
   T Bili:140/51.7, Differential-Neuts:83.1 %, Band:0.0 %, Lymph:7.1 %,
   Mono:5.7 %, Eos:3.6 %, Lactic Acid:1.1 mmol/L, Albumin:4.0 g/dL,
   LDH:238 IU/L, Ca++:9.7 mg/dL, Mg++:2.4 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1806**] is a 55 year old male with MELD 58 HCV cirhosis c/b
   encephalopathy, ascites, admitted SBP and was on transplant list but
   developed hypoTN and leukocytosis.
   # Hypotension, leukocytosis: Initially concerning for SBP with new
   resistant organism, e.g. ESBL, but paracentesis performed on [**2145-4-9**]
   with negative gram stain.  WBC count now trending down but
   phenylephrine requirement remains stable.   BP better when left side
   down.
   - f/u paracentesis and blood cultures
   - f/u ID reccs regarding continuation of antibiotics
   - weane phenylephrine as tolerated
   # SBP: Para negative on [**4-1**] and repeat para negative on [**4-9**].
   - vanco per HD protocol and pip/tazo (day 16)
   - ID reccs regarding course of antibiotics
   # ESLD: Patient with decompensated HCV cirrhosis with MELD 58 in the
   setting of SBP, HRS. Remains encephalopathic.  Per hepatology
   attending, he is currently on the transplant list as of [**2145-4-10**].
   - Continue lactulose and rifaxamin.
   - Trend LFTs.
   - Continue lactulose and rifaximin, antimicrobials
   - Appreciate hepatology and transplant surgery following.
   # Renal failure: Patient with HRS type 1 in setting of SBP and
   decompensated liver failure. No signs of renal recovery thus far.
   - On HD and midodrine/octreotide.
   - Appreciate renal following.
   - Continue to monitor lytes, BUN/Cr. ? phos binder given elevated phos.
   # Macular blanching erythrematus rash in right upper extremity: Dx:
   drug eruption (? zosyn) vs skin infection.
   - will monitor and consult derm
   - continue vanc and if eos on diff will change zosyn to [**Last Name (un) **]
   FEN: TFs. Replete as necessary
   PPx: SCDs, PPI
   Contact: HCP is [**Name (NI) 777**] [**Name (NI) 6397**] sister [**Telephone/Fax (1) 6398**], second HCP is [**Name (NI) 1760**]
   [**Name (NI) 6399**] - sister - (h) [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**] (do not leave
   msg on cell).
   Dispo: ICU
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-10**] 11:16 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-1**] 08:00 PM
   20 Gauge - [**2145-4-6**] 07:12 PM
   18 Gauge - [**2145-4-11**] 07:03 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-04-11 11:55:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: ESLD
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2145-4-10**] 04:19 PM from HD VIP port
 Derm consult
 Cont require levophed
   History obtained from Patient
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-4-8**] 07:45 PM
   Piperacillin - [**2145-4-10**] 07:40 AM
   Vancomycin - [**2145-4-10**] 12:30 PM
   Infusions:
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-4-11**] 08:17 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-11**] 11:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.4
   HR: 54 (50 - 65) bpm
   BP: 89/47(56) {77/25(39) - 109/72(79)} mmHg
   RR: 18 (14 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 73 Inch
   CVP: 3 (3 - 3)mmHg
   Total In:
                                                                  4,544 mL
                                                                  1,522 mL
   PO:
   TF:
                                                                  1,086 mL
                                                                    405 mL
   IVF:
                                                                  1,473 mL
                                                                    557 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                    875 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,669 mL
                                                                  1,522 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: icteric
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Cool, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.8 g/dL
   53 K/uL
   130 mg/dL
   7.8 mg/dL
   24 mEq/L
   3.6 mEq/L
   72 mg/dL
   98 mEq/L
   137 mEq/L
   33.6 %
   13.5 K/uL
        [image002.jpg]
                             [**2145-4-4**]  03:22 AM
                             [**2145-4-5**]  03:33 AM
                             [**2145-4-6**]  05:57 AM
                             [**2145-4-6**]  10:04 PM
                             [**2145-4-7**]  03:28 AM
                             [**2145-4-7**]  05:30 PM
                             [**2145-4-8**]  03:33 AM
                             [**2145-4-9**]  03:09 AM
                             [**2145-4-10**]  04:40 AM
                             [**2145-4-11**]  05:25 AM
   WBC
   9.4
   11.2
   14.2
   18.9
   19.7
   20.1
   16.4
   16.8
   13.5
   Hct
   32.4
   34.9
   35.2
   34.4
   34.5
   33.7
   32.8
   34.1
   33.6
   Plt
   46
   50
   40
   42
   32
   43
   34
   51
   53
   Cr
   7.5
   9.0
   11.4
   8.4
   9.0
   10.8
   7.8
   11.0
   7.8
   Glucose
   161
   180
   166
   144
   168
   158
   158
   154
   130
   Other labs: PT / PTT / INR:31.1/77.3/3.2, ALT / AST:78/105, Alk Phos /
   T Bili:140/51.7, Differential-Neuts:83.1 %, Band:0.0 %, Lymph:7.1 %,
   Mono:5.7 %, Eos:3.6 %, Lactic Acid:1.1 mmol/L, Albumin:4.0 g/dL,
   LDH:238 IU/L, Ca++:9.7 mg/dL, Mg++:2.4 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
   55M HCV c/b ESLD, HRS, peritonitis, encephalopathy admitted for
   progressive somnolence and initiation of HD. Encephalopathy stable,
   tolerating HD, awaiting liver. WBC down, pressor requirement stable.
   ESLD
   - MELD >50.
   - pt is on the transplant list but pressor requirement at present
   likely to preclude tx
   Hypotension
   -cont to require stable dose of neo for BP support
   -dx paracentesis performed - cx ngtd
   ARF/HRS
   - cont require dialysis
   Encephalopathy
   - continue to tx encephalopathy with lactulose and rifaximin via NGT.
   Please see resident not for remainder of plan.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-1**] 08:00 PM
   18 Gauge - [**2145-4-11**] 07:03 AM
   PICC Line - [**2145-4-11**] 09:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 40 minutes
   Patient is critically ill

2145-04-12 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2145-4-11**] 09:30 AM
   - Potential donor became available, but pt was deemed poor candidate
   given low bp.
   - Attempt to wean neo through day; as low as 1.5
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2145-4-10**] 07:40 AM
   Vancomycin - [**2145-4-10**] 12:30 PM
   Infusions:
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-4-11**] 08:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-12**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.5
   HR: 52 (52 - 65) bpm
   BP: 88/44(53) {73/26(40) - 105/80(86)} mmHg
   RR: 17 (14 - 21) insp/min
   SpO2: 92%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 73 Inch
    CVP: 15 (8 - 37)mmHg
   Total In:
                                                                  3,079 mL
                                                                    550 mL
   PO:
   TF:
                                                                    992 mL
                                                                    318 mL
   IVF:
                                                                  1,027 mL
                                                                    151 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,079 mL
                                                                    550 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///22/
   Physical Examination
   General: NAD
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Inc distension. Not tense. Hypoactive BS
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: Oriented x3.
   Labs / Radiology
   54 K/uL
   11.5 g/dL
   159 mg/dL
   9.0 mg/dL
   22 mEq/L
   3.8 mEq/L
   91 mg/dL
   94 mEq/L
   134 mEq/L
   32.6 %
   13.1 K/uL
        [image002.jpg]
                             [**2145-4-5**]  03:33 AM
                             [**2145-4-6**]  05:57 AM
                             [**2145-4-6**]  10:04 PM
                             [**2145-4-7**]  03:28 AM
                             [**2145-4-7**]  05:30 PM
                             [**2145-4-8**]  03:33 AM
                             [**2145-4-9**]  03:09 AM
                             [**2145-4-10**]  04:40 AM
                             [**2145-4-11**]  05:25 AM
                             [**2145-4-12**]  03:32 AM
   WBC
   11.2
   14.2
   18.9
   19.7
   20.1
   16.4
   16.8
   13.5
   13.1
   Hct
   34.9
   35.2
   34.4
   34.5
   33.7
   32.8
   34.1
   33.6
   32.6
   Plt
   50
   40
   42
   32
   43
   34
   51
   53
   54
   Cr
   9.0
   11.4
   8.4
   9.0
   10.8
   7.8
   11.0
   7.8
   9.0
   Glucose
   180
   166
   144
   168
   158
   158
   154
   130
   159
   Other labs: PT / PTT / INR:31.1/77.3/3.2, ALT / AST:78/105, Alk Phos /
   T Bili:140/51.7, Differential-Neuts:81.9 %, Band:0.0 %, Lymph:8.9 %,
   Mono:4.6 %, Eos:4.2 %, Lactic Acid:1.1 mmol/L, Albumin:4.0 g/dL,
   LDH:238 IU/L, Ca++:10.0 mg/dL, Mg++:2.4 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1806**] is a 55 year old male with MELD 58 HCV cirhosis c/b
   encephalopathy, ascites, admitted SBP and was on transplant list but
   developed hypoTN and leukocytosis.
   # Hypotension, leukocytosis: Paracentesis performed on [**2145-4-9**] with Cx
   NGTD.  WBC count now trending down but with continued pressor
   requirement.  BP better when left side down. MS unchanged.   Per ID,
   antimicrobials stopped.
   - F/u paracentesis and blood cultures, daily surveillance BCx.
   - Wean phenylephrine as tolerated
   # SBP: Para negative on [**4-1**] and repeat para negative on [**4-9**].
   - vanco and pip/tazo held
   - Follow-up culture data
   # ESLD: Patient with decompensated HCV cirrhosis with MELD 58 in the
   setting of SBP, HRS. Remains encephalopathic.  Per hepatology
   attending, he is currently on the transplant list as of [**2145-4-10**].
   - Continue lactulose and rifaxamin.
   - Trend LFTs.
   -  Follow-up with hepatology and transplant [**Doctor First Name 91**]
   # Renal failure: Patient with HRS type 1 in setting of SBP and
   decompensated liver failure. No signs of renal recovery thus far.
   - On HD and midodrine/octreotide.
   - Follow-up with renal recs if any
   - Continue to monitor lytes, BUN/Cr. ? phos binder given elevated phos.
   FEN: TFs. Replete as necessary
   PPx: SCDs, PPI
   Contact: HCP is [**Name (NI) 777**] [**Name (NI) 6397**] sister [**Telephone/Fax (1) 6398**], second HCP is [**Name (NI) 1760**]
   [**Name (NI) 6399**] - sister - (h) [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**] (do not leave
   msg on cell).
   Dispo: ICU level of care
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-12**] 03:14 AM 45.[**Telephone/Fax (5) 6651**] mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-1**] 08:00 PM
   18 Gauge - [**2145-4-11**] 07:03 AM
   PICC Line - [**2145-4-11**] 09:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-04-12 09:48:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: end stage liver disease
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2145-4-11**] 09:30 AM
 cont require neo - bp better today
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2145-4-10**] 07:40 AM
   Vancomycin - [**2145-4-10**] 12:30 PM
   Infusions:
   Phenylephrine - 2 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-12**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.5
C (95.9
   HR: 56 (52 - 65) bpm
   BP: 97/50(61) {73/26(40) - 105/80(86)} mmHg
   RR: 18 (14 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 73 Inch
   CVP: 4 (4 - 37)mmHg
   Total In:
                                                                  3,079 mL
                                                                    772 mL
   PO:
   TF:
                                                                    992 mL
                                                                    431 mL
   IVF:
                                                                  1,027 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    500 mL
   Urine:
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                  3,079 mL
                                                                    272 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.5 g/dL
   54 K/uL
   159 mg/dL
   9.0 mg/dL
   22 mEq/L
   3.8 mEq/L
   91 mg/dL
   94 mEq/L
   134 mEq/L
   32.6 %
   13.1 K/uL
        [image002.jpg]
                             [**2145-4-5**]  03:33 AM
                             [**2145-4-6**]  05:57 AM
                             [**2145-4-6**]  10:04 PM
                             [**2145-4-7**]  03:28 AM
                             [**2145-4-7**]  05:30 PM
                             [**2145-4-8**]  03:33 AM
                             [**2145-4-9**]  03:09 AM
                             [**2145-4-10**]  04:40 AM
                             [**2145-4-11**]  05:25 AM
                             [**2145-4-12**]  03:32 AM
   WBC
   11.2
   14.2
   18.9
   19.7
   20.1
   16.4
   16.8
   13.5
   13.1
   Hct
   34.9
   35.2
   34.4
   34.5
   33.7
   32.8
   34.1
   33.6
   32.6
   Plt
   50
   40
   42
   32
   43
   34
   51
   53
   54
   Cr
   9.0
   11.4
   8.4
   9.0
   10.8
   7.8
   11.0
   7.8
   9.0
   Glucose
   180
   166
   144
   168
   158
   158
   154
   130
   159
   Other labs: PT / PTT / INR:31.1/77.3/3.2, ALT / AST:78/105, Alk Phos /
   T Bili:140/51.7, Differential-Neuts:81.9 %, Band:0.0 %, Lymph:8.9 %,
   Mono:4.6 %, Eos:4.2 %, Lactic Acid:1.1 mmol/L, Albumin:4.0 g/dL,
   LDH:238 IU/L, Ca++:10.0 mg/dL, Mg++:2.4 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
   55M HCV c/b ESLD, HRS, peritonitis, encephalopathy admitted for
   progressive somnolence and initiation of HD. Encephalopathy stable,
   tolerating HD, awaiting liver. WBC down, pressor requirement stable.
   ESLD
   - MELD in 50s.
   - pt is on the transplant list but pressor requirement risks preventing
   tx if organ available
   - liver tx team following
   Hypotension
   -cont to require stable dose of neo for BP support but BP somewhat
   improved today
   -dx paracentesis performed - cx ngtd
   ARF/HRS
   - cont require dialysis
   Encephalopathy
   - continue to tx encephalopathy with lactulose and rifaximin via NGT.
   - mental status improved. aaox3 today.
    Please see resident not for remainder of plan.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-12**] 08:24 AM 45.[**Telephone/Fax (5) 6651**] mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-1**] 08:00 PM
   PICC Line - [**2145-4-11**] 09:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2145-04-13 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Moved to chair during the day.
   - Attempted to wean neo.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2145-4-10**] 07:40 AM
   Vancomycin - [**2145-4-10**] 12:30 PM
   Infusions:
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-13**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 67 (55 - 67) bpm
   BP: 89/48(54) {73/30(42) - 118/81(85)} mmHg
   RR: 19 (12 - 21) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 12 (4 - 15)mmHg
   Total In:
                                                                  1,973 mL
                                                                    512 mL
   PO:
   TF:
                                                                  1,082 mL
                                                                    326 mL
   IVF:
                                                                    512 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                  1,473 mL
                                                                    512 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   General: NAD
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Inc distension. Not tense. Hypoactive BS
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: Oriented x3.
   Labs / Radiology
   42 K/uL
   10.6 g/dL
   159 mg/dL
   7.2 mg/dL
   24 mEq/L
   3.5 mEq/L
   65 mg/dL
   97 mEq/L
   137 mEq/L
   30.0 %
   12.1 K/uL
        [image002.jpg]
                             [**2145-4-6**]  05:57 AM
                             [**2145-4-6**]  10:04 PM
                             [**2145-4-7**]  03:28 AM
                             [**2145-4-7**]  05:30 PM
                             [**2145-4-8**]  03:33 AM
                             [**2145-4-9**]  03:09 AM
                             [**2145-4-10**]  04:40 AM
                             [**2145-4-11**]  05:25 AM
                             [**2145-4-12**]  03:32 AM
                             [**2145-4-13**]  04:02 AM
   WBC
   14.2
   18.9
   19.7
   20.1
   16.4
   16.8
   13.5
   13.1
   12.1
   Hct
   35.2
   34.4
   34.5
   33.7
   32.8
   34.1
   33.6
   32.6
   30.0
   Plt
   40
   42
   32
   43
   34
   51
   53
   54
   42
   Cr
   11.4
   8.4
   9.0
   10.8
   7.8
   11.0
   7.8
   9.0
   7.2
   Glucose
   166
   144
   168
   158
   158
   154
   130
   159
   159
   Other labs: PT / PTT / INR:34.6/83.1/3.6, ALT / AST:76/124, Alk Phos /
   T Bili:139/50.9, Differential-Neuts:81.9 %, Band:0.0 %, Lymph:8.9 %,
   Mono:4.6 %, Eos:4.2 %, Lactic Acid:1.1 mmol/L, Albumin:3.7 g/dL,
   LDH:208 IU/L, Ca++:9.6 mg/dL, Mg++:2.4 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1806**] is a 55 year old male with MELD 58 HCV cirhosis c/b
   encephalopathy, ascites, admitted SBP and was on transplant list but
   developed hypoTN and leukocytosis.
   # Hypotension, leukocytosis: Paracentesis performed on [**2145-4-9**] with Cx
   NGTD.  WBC count now trending dow. Neo down to 1, BP in 80s.  MS
   unchanged.   Per ID, antimicrobials stopped.
   - F/u paracentesis and blood cultures, daily surveillance BCx.
   - Wean phenylephrine as tolerated
   - consider therapeutic para and a-line but family declined these in
   past
   # SBP: Para negative on [**4-1**] and repeat para negative on [**4-9**].
   - vanco and pip/tazo d/c
d (14 day course completed)
   - Follow-up culture data
   # ESLD: Patient with decompensated HCV cirrhosis with MELD 58 in the
   setting of SBP, HRS. Remains encephalopathic.  Per hepatology
   attending, he is currently on the transplant list as of [**2145-4-10**].
   - Continue lactulose and rifaxamin.
   - Trend LFTs.
   -  Follow-up with hepatology and transplant [**Doctor First Name 91**]
   # Renal failure: Patient with HRS type 1 in setting of SBP and
   decompensated liver failure. No signs of renal recovery thus far.
   - On HD and midodrine/octreotide.
   - Follow-up with renal recs if any
   - Continue to monitor lytes, BUN/Cr.
   FEN: TFs. Replete as necessary
   PPx: SCDs, PPI
   Contact: HCP is [**Name (NI) 777**] [**Name (NI) 6397**] sister [**Telephone/Fax (1) 6398**], second HCP is [**Name (NI) 1760**]
   [**Name (NI) 6399**] - sister - (h) [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**] (do not leave
   msg on cell).
   Dispo: ICU level of care
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-13**] 05:10 AM 45.[**Telephone/Fax (5) 6651**] mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-1**] 08:00 PM
   PICC Line - [**2145-4-11**] 09:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-04-14 07:13:00 Physician Resident Progress Note
Chief Complaint: ESLD, SBP
   24 Hour Events:
   - Tried off of pressors but had to go back on.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.7 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-14**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.3
C (97.4
   HR: 69 (60 - 113) bpm
   BP: 107/57(65) {81/41(50) - 112/76(79)} mmHg
   RR: 16 (13 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 4 (4 - 16)mmHg
   Total In:
                                                                  1,413 mL
                                                                    411 mL
   PO:
   TF:
                                                                    938 mL
                                                                    235 mL
   IVF:
                                                                    355 mL
                                                                     87 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    600 mL
   Urine:
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                    513 mL
                                                                   -189 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   General: NAD
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Inc distension. Not tense. Hypoactive BS
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: Oriented x3.
   Labs / Radiology
   39 K/uL
   10.6 g/dL
   182 mg/dL
   9.0 mg/dL
   21 mEq/L
   3.7 mEq/L
   85 mg/dL
   100 mEq/L
   138 mEq/L
   31.1 %
   10.6 K/uL
        [image002.jpg]
                             [**2145-4-6**]  10:04 PM
                             [**2145-4-7**]  03:28 AM
                             [**2145-4-7**]  05:30 PM
                             [**2145-4-8**]  03:33 AM
                             [**2145-4-9**]  03:09 AM
                             [**2145-4-10**]  04:40 AM
                             [**2145-4-11**]  05:25 AM
                             [**2145-4-12**]  03:32 AM
                             [**2145-4-13**]  04:02 AM
                             [**2145-4-14**]  05:05 AM
   WBC
   18.9
   19.7
   20.1
   16.4
   16.8
   13.5
   13.1
   12.1
   10.6
   Hct
   34.4
   34.5
   33.7
   32.8
   34.1
   33.6
   32.6
   30.0
   31.1
   Plt
   42
   32
   43
   34
   51
   53
   54
   42
   39
   Cr
   8.4
   9.0
   10.8
   7.8
   11.0
   7.8
   9.0
   7.2
   9.0
   Glucose
   144
   168
   158
   158
   154
   130
   159
   159
   182
   Other labs: PT / PTT / INR:35.5/81.4/3.8, ALT / AST:76/124, Alk Phos /
   T Bili:135/48.3, Differential-Neuts:81.9 %, Band:0.0 %, Lymph:8.9 %,
   Mono:4.6 %, Eos:4.2 %, Lactic Acid:1.1 mmol/L, Albumin:3.7 g/dL,
   LDH:208 IU/L, Ca++:9.7 mg/dL, Mg++:2.6 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1806**] is a 55 year old male with MELD 58 HCV cirhosis c/b
   encephalopathy, ascites, SBP on vasopressors awaiting liver transplant.
   # Hypotension, leukocytosis: Paracentesis performed on [**2145-4-9**] negative
   for SBP with cultures NGTD.  WBC trending down.  Continuing to wean
   neo.  Antimicrobials held per ID.
   - F/u paracentesis and blood cultures, daily surveillance BCx.
   - Wean phenylephrine as tolerated, goal SBP>80.
   # SBP: Para negative on [**4-1**] and repeat para negative on [**4-9**].
   - vanco and pip/tazo d/c
d (14 day course completed)
   - Follow-up culture data
   # ESLD: Patient with decompensated HCV cirrhosis with MELD 58 in the
   setting of SBP, HRS. Remains encephalopathic.  Per hepatology
   attending, he is currently on the transplant list as of [**2145-4-10**].
   - Continue lactulose and rifaxamin.
   - Trend LFTs.
   -  Follow-up with hepatology and transplant [**Doctor First Name 91**]
   # Renal failure: Patient with HRS type 1 in setting of SBP and
   decompensated liver failure. No signs of renal recovery thus far. Per
   renal, will initiate renal transplant eval.
   - On HD and midodrine/octreotide. Received SPA yesterday.
   - Follow-up with renal recs if any
   - Renal tx recs if any
   - Continue to monitor lytes, BUN/Cr.
   FEN: TFs. Replete as necessary
   PPx: SCDs, PPI
   Contact: HCP is [**Name (NI) 777**] [**Name (NI) 6397**] sister [**Telephone/Fax (1) 6398**], second HCP is [**Name (NI) 1760**]
   [**Name (NI) 6399**] - sister - (h) [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**] (do not leave
   msg on cell).
   Dispo: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-1**] 08:00 PM
   PICC Line - [**2145-4-11**] 09:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-04-15 06:46:00 Physician Resident Progress Note
Chief Complaint: ESLD, SBP, hypotension, HRS
   24 Hour Events:
   - albumin qid per trasplant service
   - HD done
   - wound care to back
   - Neo at 0.5
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-15**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 64 (57 - 72) bpm
   BP: 92/41(53) {83/40(51) - 111/61(72)} mmHg
   RR: 17 (11 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 9 (-2 - 11)mmHg
   Total In:
                                                                  1,423 mL
                                                                    553 mL
   PO:
   TF:
                                                                    860 mL
                                                                    300 mL
   IVF:
                                                                    294 mL
                                                                     93 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                    600 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                    823 mL
                                                                    553 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General: NAD
   HEENT: Sclera anicteric, MMM, OP clear
   Pulm: CTAB
   CV: Normal S1 + S2, no m/r/g
   Abdomen: Inc distension. Not tense. Hypoactive BS
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: Oriented x3. Neg asterixis
   Labs / Radiology
   30 K/uL
   10.4 g/dL
   165 mg/dL
   7.2 mg/dL
   25 mEq/L
   3.8 mEq/L
   67 mg/dL
   100 mEq/L
   140 mEq/L
   30.0 %
   6.8 K/uL
        [image002.jpg]
                             [**2145-4-7**]  03:28 AM
                             [**2145-4-7**]  05:30 PM
                             [**2145-4-8**]  03:33 AM
                             [**2145-4-9**]  03:09 AM
                             [**2145-4-10**]  04:40 AM
                             [**2145-4-11**]  05:25 AM
                             [**2145-4-12**]  03:32 AM
                             [**2145-4-13**]  04:02 AM
                             [**2145-4-14**]  05:05 AM
                             [**2145-4-15**]  04:08 AM
   WBC
   18.9
   19.7
   20.1
   16.4
   16.8
   13.5
   13.1
   12.1
   10.6
   6.8
   Hct
   34.4
   34.5
   33.7
   32.8
   34.1
   33.6
   32.6
   30.0
   31.1
   30.0
   Plt
   42
   32
   43
   34
   51
   53
   54
   42
   39
   30
   Cr
   9.0
   10.8
   7.8
   11.0
   7.8
   9.0
   7.2
   9.0
   7.2
   Glucose
   168
   158
   158
   154
   130
   159
   159
   182
   165
   Other labs: PT / PTT / INR:33.4/85.9/3.5, ALT / AST:76/124, Alk Phos /
   T Bili:135/48.3, Differential-Neuts:81.9 %, Band:0.0 %, Lymph:8.9 %,
   Mono:4.6 %, Eos:4.2 %, Lactic Acid:1.1 mmol/L, Albumin:3.7 g/dL,
   LDH:208 IU/L, Ca++:9.7 mg/dL, Mg++:1.5 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1806**] is a 55 year old male with MELD 58 HCV cirhosis c/b
   encephalopathy, ascites, SBP on vasopressors awaiting liver transplant.
   # Hypotension, leukocytosis: Repeat paracentesis ([**2145-4-9**]) negative for
   SBP with cultures NGTD.  WBC trending down.  Continuing to wean neo.
   Antimicrobials held per ID.
   - Per tx [**Doctor First Name 91**], SPA Q6H.
   - F/u paracentesis and blood cultures, daily surveillance BCx.
   - Wean phenylephrine as tolerated, goal SBP>80.
   # SBP: Para negative on [**4-1**] and repeat para negative on [**4-9**].
   - vanco and pip/tazo discontinued after 14 day course
   - Follow-up culture data
   # ESLD: Patient with decompensated HCV cirrhosis with MELD 58 in the
   setting of SBP, HRS. Remains encephalopathic, although mental status
   improved from initial micu admission.  Per hepatology attending,
   patient is currently on the transplant list as of [**2145-4-10**].
   - Continue lactulose and rifaxamin.
   - Trend LFTs.
   -  Follow-up with hepatology and transplant [**Doctor First Name 91**]
   # Renal failure: Patient with HRS type 1 in setting of SBP and
   decompensated liver failure. Patient on HD for 14 days, initiated renal
   transplant eval yesterday.
   - On HD and midodrine/octreotide. Received SPA yesterday.
   - Follow-up with renal and renal tx recs if any
   - Continue to monitor lytes, BUN/Cr.
   FEN: TFs. Replete as necessary
   PPx: SCDs, PPI
   Contact: HCP is [**Name (NI) 777**] [**Name (NI) 6397**] sister [**Telephone/Fax (1) 6398**], second HCP is [**Name (NI) 1760**]
   [**Name (NI) 6399**] - sister - (h) [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**] (do not leave
   msg on cell).
   Dispo: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-1**] 08:00 PM
   PICC Line - [**2145-4-11**] 09:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-04-16 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname 1806**] is a 55 year old male with MELD 58 HCV
   cirhosis c/b encephalopathy, ascites, SBP on vasopressors awaiting
   liver transplant.
   24 Hour Events:
   - Neo turned off
   - Flexiseal with BRBPR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-16**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98.1
   HR: 68 (58 - 70) bpm
   BP: 111/48(65) {80/37(47) - 112/72(78)} mmHg
   RR: 23 (11 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  2,031 mL
                                                                    468 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    308 mL
   IVF:
                                                                    311 mL
                                                                     70 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                    900 mL
                                                                    600 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,131 mL
                                                                   -132 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General: NAD, obese
   HEENT: Sclera icterius, MMM, OP clear
   Pulm: CTAB
   CV: Normal S1 + S2, no m/r/g
   Abdomen: soft, nontender, distended.
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: Oriented x3.
   Labs / Radiology
   27 K/uL
   9.7 g/dL
   169 mg/dL
   9.5 mg/dL
   25 mEq/L
   3.9 mEq/L
   92 mg/dL
   100 mEq/L
   140 mEq/L
   28.3 %
   5.7 K/uL
        [image002.jpg]
                             [**2145-4-7**]  05:30 PM
                             [**2145-4-8**]  03:33 AM
                             [**2145-4-9**]  03:09 AM
                             [**2145-4-10**]  04:40 AM
                             [**2145-4-11**]  05:25 AM
                             [**2145-4-12**]  03:32 AM
                             [**2145-4-13**]  04:02 AM
                             [**2145-4-14**]  05:05 AM
                             [**2145-4-15**]  04:08 AM
                             [**2145-4-16**]  04:49 AM
   WBC
   19.7
   20.1
   16.4
   16.8
   13.5
   13.1
   12.1
   10.6
   6.8
   5.7
   Hct
   34.5
   33.7
   32.8
   34.1
   33.6
   32.6
   30.0
   31.1
   30.0
   28.3
   Plt
   32
   43
   34
   51
   53
   54
   42
   39
   30
   27
   Cr
   10.8
   7.8
   11.0
   7.8
   9.0
   7.2
   9.0
   7.2
   9.5
   Glucose
   158
   158
   154
   130
   159
   159
   182
   165
   169
   Other labs: PT / PTT / INR:32.9/84.1/3.4, ALT / AST:56/118, Alk Phos /
   T Bili:114/48.3, Differential-Neuts:81.9 %, Band:0.0 %, Lymph:8.9 %,
   Mono:4.6 %, Eos:4.2 %, Lactic Acid:1.1 mmol/L, Albumin:3.7 g/dL,
   LDH:208 IU/L, Ca++:9.5 mg/dL, Mg++:3.3 mg/dL, PO4:7.7 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1806**] is a 55 year old male with MELD 58 HCV cirhosis c/b
   encephalopathy, ascites, SBP on vasopressors awaiting liver transplant.
   # Anemia:  Considering streaks of bright red blood, likely secondary to
   LGIB, with possible sources being hemorrhoids, diverticulosis, or
   mass.  UGIB unlikely given absence of melena, though patient did have
   varices at time of scope in [**3-27**].
   - transfuse for Hct>25, plt<50
   - FFP, desmopressin
   - touch base with hepatology regarding willingness to scope
   - hemolysis labs
   # Hypotension, leukocytosis: Repeat paracentesis ([**2145-4-9**]) negative for
   SBP with cultures NGTD.  WBC trending down.  Weaned off neo on [**4-15**].
   Antimicrobials held per ID.
   - Per tx [**Doctor First Name 91**], SPA Q6H.
   - F/u paracentesis and blood cultures.
   # SBP: Para negative on [**4-1**] and repeat para negative on [**4-9**].
   - vanco and pip/tazo discontinued after 14 day course
   - Follow-up culture data
   # ESLD: Patient with decompensated HCV cirrhosis with MELD 58 in the
   setting of SBP, HRS. Remains encephalopathic, although mental status
   improved from initial micu admission.  Per hepatology attending,
   patient is currently on the transplant list as of [**2145-4-10**].
   - Continue lactulose and rifaxamin.
   - Trend LFTs.
   -  Follow-up with hepatology and transplant [**Doctor First Name 91**]
   # Renal failure: Patient with HRS type 1 in setting of SBP and
   decompensated liver failure. Patient on HD for 15 days, irenal states
   that he is now a candidate for renal transplant also.
   - On HD and midodrine/octreotide.
   - Follow-up with renal and renal tx recs if any
   - Continue to monitor lytes, BUN/Cr.
   FEN: TFs. Replete as necessary
   PPx: SCDs, PPI
   Contact: HCP is [**Name (NI) 777**] [**Name (NI) 6397**] sister [**Telephone/Fax (1) 6398**], second HCP is [**Name (NI) 1760**]
   [**Name (NI) 6399**] - sister - (h) [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**] (do not leave
   msg on cell).
   Dispo: ICU level of care
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-16**] 03:15 AM 45.[**Telephone/Fax (5) 6718**] mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-1**] 08:00 PM
   PICC Line - [**2145-4-11**] 09:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-04-17 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**4-15**]
   - Neo turned off
   - Flexiseal with BRBPR
   [**4-16**]
   - flexiseal still with brbpr in mostly brown stool
   - hct 30->28->25. 2 bag platlets and 4 u FPP total given with
   stabilization, DDAVP
   - liver: hold off on scoping
   - on liver and kidney tx list
   - bleeding from PICC line, resolved with compression
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-17**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.5
   HR: 68 (62 - 79) bpm
   BP: 100/57(67) {85/34(51) - 124/63(73)} mmHg
   RR: 14 (13 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  3,365 mL
                                                                    619 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    339 mL
   IVF:
                                                                    392 mL
                                                                     75 mL
   Blood products:
                                                                  1,563 mL
   Total out:
                                                                    600 mL
                                                                    300 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,765 mL
                                                                    319 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   29 K/uL
   8.9 g/dL
   179 mg/dL
   6.5 mg/dL
   26 mEq/L
   3.5 mEq/L
   66 mg/dL
   101 mEq/L
   143 mEq/L
   25.5 %
   4.6 K/uL
        [image002.jpg]
                             [**2145-4-10**]  04:40 AM
                             [**2145-4-11**]  05:25 AM
                             [**2145-4-12**]  03:32 AM
                             [**2145-4-13**]  04:02 AM
                             [**2145-4-14**]  05:05 AM
                             [**2145-4-15**]  04:08 AM
                             [**2145-4-16**]  04:49 AM
                             [**2145-4-16**]  02:18 PM
                             [**2145-4-16**]  07:48 PM
                             [**2145-4-17**]  03:22 AM
   WBC
   16.8
   13.5
   13.1
   12.1
   10.6
   6.8
   5.7
   4.7
   4.6
   Hct
   34.1
   33.6
   32.6
   30.0
   31.1
   30.0
   28.3
   25.7
   25.2
   25.5
   Plt
   51
   53
   54
   42
   39
   30
   27
   29
   54
   29
   Cr
   11.0
   7.8
   9.0
   7.2
   9.0
   7.2
   9.5
   6.5
   Glucose
   154
   130
   159
   159
   182
   165
   169
   179
   Other labs: PT / PTT / INR:25.2/57.4/2.5, ALT / AST:56/118, Alk Phos /
   T Bili:114/47.8, Differential-Neuts:81.9 %, Band:0.0 %, Lymph:8.9 %,
   Mono:4.6 %, Eos:4.2 %, Lactic Acid:1.1 mmol/L, Albumin:3.7 g/dL,
   LDH:208 IU/L, Ca++:9.7 mg/dL, Mg++:2.7 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1806**] is a 55 year old male with MELD 58 HCV cirhosis c/b
   encephalopathy, ascites, SBP on vasopressors awaiting liver transplant.
   # Anemia:  Considering streaks of bright red blood, likely secondary to
   LGIB, with possible sources being hemorrhoids, diverticulosis, or
   mass.  UGIB unlikely given absence of melena, though patient did have
   varices at time of scope in [**3-27**].
   - transfuse for Hct>25, plt<50
   - FFP, desmopressin
   - touch base with hepatology regarding willingness to scope
   - hemolysis labs
   # Hypotension, leukocytosis: Repeat paracentesis ([**2145-4-9**]) negative for
   SBP with cultures NGTD.  WBC trending down.  Weaned off neo on [**4-15**].
   Antimicrobials held per ID.
   - Per tx [**Doctor First Name 91**], SPA Q6H.
   - F/u paracentesis and blood cultures.
   # SBP: Para negative on [**4-1**] and repeat para negative on [**4-9**].
   - vanco and pip/tazo discontinued after 14 day course
   - Follow-up culture data
   # ESLD: Patient with decompensated HCV cirrhosis with MELD 58 in the
   setting of SBP, HRS. Remains encephalopathic, although mental status
   improved from initial micu admission.  Per hepatology attending,
   patient is currently on the transplant list as of [**2145-4-10**].
   - Continue lactulose and rifaxamin.
   - Trend LFTs.
   -  Follow-up with hepatology and transplant [**Doctor First Name 91**]
   # Renal failure: Patient with HRS type 1 in setting of SBP and
   decompensated liver failure. Patient on HD for 15 days, irenal states
   that he is now a candidate for renal transplant also.
   - On HD and midodrine/octreotide.
   - Follow-up with renal and renal tx recs if any
   - Continue to monitor lytes, BUN/Cr.
   FEN: TFs. Replete as necessary
   PPx: SCDs, PPI
   Contact: HCP is [**Name (NI) 777**] [**Name (NI) 6397**] sister [**Telephone/Fax (1) 6398**], second HCP is [**Name (NI) 1760**]
   [**Name (NI) 6399**] - sister - (h) [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**] (do not leave
   msg on cell).
   Dispo: ICU level of care
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-17**] 05:02 AM 45.[**Telephone/Fax (5) 6718**] mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-1**] 08:00 PM
   PICC Line - [**2145-4-11**] 09:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-04-17 08:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:   cirrhosis, on HD
   24 Hour Events:
   Transfused platelets, ddAVP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-17**] 08:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.5
   HR: 68 (62 - 79) bpm
   BP: 100/57(67) {85/34(51) - 124/63(73)} mmHg
   RR: 14 (13 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  3,365 mL
                                                                    657 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    370 mL
   IVF:
                                                                    392 mL
                                                                     82 mL
   Blood products:
                                                                  1,563 mL
   Total out:
                                                                    600 mL
                                                                    300 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,765 mL
                                                                    357 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   29 K/uL
   179 mg/dL
   6.5 mg/dL
   26 mEq/L
   3.5 mEq/L
   66 mg/dL
   101 mEq/L
   143 mEq/L
   25.5 %
   4.6 K/uL
        [image002.jpg]
                             [**2145-4-10**]  04:40 AM
                             [**2145-4-11**]  05:25 AM
                             [**2145-4-12**]  03:32 AM
                             [**2145-4-13**]  04:02 AM
                             [**2145-4-14**]  05:05 AM
                             [**2145-4-15**]  04:08 AM
                             [**2145-4-16**]  04:49 AM
                             [**2145-4-16**]  02:18 PM
                             [**2145-4-16**]  07:48 PM
                             [**2145-4-17**]  03:22 AM
   WBC
   16.8
   13.5
   13.1
   12.1
   10.6
   6.8
   5.7
   4.7
   4.6
   Hct
   34.1
   33.6
   32.6
   30.0
   31.1
   30.0
   28.3
   25.7
   25.2
   25.5
   Plt
   51
   53
   54
   42
   39
   30
   27
   29
   54
   29
   Cr
   11.0
   7.8
   9.0
   7.2
   9.0
   7.2
   9.5
   6.5
   Glucose
   154
   130
   159
   159
   182
   165
   169
   179
   Other labs: PT / PTT / INR:25.2/57.4/2.5, ALT / AST:56/118, Alk Phos /
   T Bili:114/47.8, Differential-Neuts:81.9 %, Band:0.0 %, Lymph:8.9 %,
   Mono:4.6 %, Eos:4.2 %, Lactic Acid:1.1 mmol/L, Albumin:3.7 g/dL,
   LDH:208 IU/L, Ca++:9.7 mg/dL, Mg++:2.7 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   Hct stable this morning, follow
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATORENAL SYNDROME
 HEMATEMESIS (UPPER GI BLEED, UGIB)
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 BRADYCARDIA
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-17**] 05:02 AM 45.[**Telephone/Fax (5) 6718**] mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-1**] 08:00 PM
   PICC Line - [**2145-4-11**] 09:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2145-04-18 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   no events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-18**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.7
   HR: 67 (60 - 70) bpm
   BP: 97/33(48) {78/27(39) - 114/66(75)} mmHg
   RR: 17 (12 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  1,907 mL
                                                                    487 mL
   PO:
             TF:
                                                                  1,098 mL
                                                                    301 mL
   IVF:
                                                                    244 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,607 mL
                                                                    487 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   29 K/uL
   9.4 g/dL
   147 mg/dL
   7.0 mg/dL
   26 mEq/L
   4.1 mEq/L
   85 mg/dL
   104 mEq/L
   145 mEq/L
   27.7 %
   4.7 K/uL
        [image002.jpg]
                             [**2145-4-11**]  05:25 AM
                             [**2145-4-12**]  03:32 AM
                             [**2145-4-13**]  04:02 AM
                             [**2145-4-14**]  05:05 AM
                             [**2145-4-15**]  04:08 AM
                             [**2145-4-16**]  04:49 AM
                             [**2145-4-16**]  02:18 PM
                             [**2145-4-16**]  07:48 PM
                             [**2145-4-17**]  03:22 AM
                             [**2145-4-18**]  03:38 AM
   WBC
   13.5
   13.1
   12.1
   10.6
   6.8
   5.7
   4.7
   4.6
   4.7
   Hct
   33.6
   32.6
   30.0
   31.1
   30.0
   28.3
   25.7
   25.2
   25.5
   27.7
   Plt
   53
   54
   42
   39
   30
   27
   29
   54
   29
   29
   Cr
   7.8
   9.0
   7.2
   9.0
   7.2
   9.5
   6.5
   7.0
   Glucose
   130
   159
   159
   182
   165
   169
   179
   147
   Other labs: PT / PTT / INR:25.2/57.4/2.5, ALT / AST:56/118, Alk Phos /
   T Bili:114/47.8, Differential-Neuts:81.9 %, Band:0.0 %, Lymph:8.9 %,
   Mono:4.6 %, Eos:4.2 %, Lactic Acid:1.1 mmol/L, Albumin:3.7 g/dL,
   LDH:208 IU/L, Ca++:10.1 mg/dL, Mg++:2.8 mg/dL, PO4:7.0 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1806**] is a 55 year old male with MELD 58 HCV cirhosis c/b
   encephalopathy, ascites, SBP on vasopressors awaiting liver transplant.
   # Anemia: Lkely low grade and stable LGIB. HCT stable.
   - transfuse for Hct>21, plt>10, or if active bleed, decompensation,
   ischemia HCT>30, PLT>50
   - FFP, desmopressin if bleeding
   # Hypotension, leukocytosis: Repeat paracentesis ([**2145-4-9**]) negative for
   SBP with cultures NGTD.  WBC trending down.  Hypotension resolved.
   Weaned off neo on [**4-15**].  Antimicrobials held per ID.
   - Per tx [**Doctor First Name 91**], SPA Q6H.
   - F/u paracentesis and blood cultures.
   # SBP: Para negative on [**4-1**] and repeat para negative on [**4-9**].
   - vanco and pip/tazo discontinued after 14 day course
   - Follow-up culture data
   # ESLD: Patient with decompensated HCV cirrhosis with MELD 58 in the
   setting of SBP, HRS. Remains encephalopathic, although mental status
   improved from initial micu admission.  Per hepatology attending,
   patient is currently on the transplant list as of [**2145-4-10**].
   - Continue lactulose and rifaxamin.
   - Trend LFTs.
   -  Follow-up with hepatology and transplant [**Doctor First Name 91**]
   # Renal failure: Patient with HRS type 1 in setting of SBP and
   decompensated liver failure. Patient on HD for 15 days, irenal states
   that he is now a candidate for renal transplant also.
   - On HD and midodrine/octreotide.
   - Follow-up with renal and renal tx recs if any
   - Continue to monitor lytes, BUN/Cr.
   FEN: TFs. Replete as necessary
   PPx: SCDs, PPI
   Contact: HCP is [**Name (NI) 777**] [**Name (NI) 6397**] sister [**Telephone/Fax (1) 6398**], second HCP is [**Name (NI) 1760**]
   [**Name (NI) 6399**] - sister - (h) [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**] (do not leave
   msg on cell).
   Dispo: ?call out
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-18**] 01:30 AM 45.[**Telephone/Fax (5) 6718**] mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-1**] 08:00 PM
   PICC Line - [**2145-4-11**] 09:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-04-18 07:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: no significant events
   No pressor needs x 2 days
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-18**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.7
   HR: 67 (60 - 70) bpm
   BP: 97/33(48) {78/27(39) - 114/66(75)} mmHg
   RR: 17 (12 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  1,907 mL
                                                                    501 mL
   PO:
             TF:
                                                                  1,098 mL
                                                                    303 mL
   IVF:
                                                                    244 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,607 mL
                                                                    501 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.4 g/dL
   29 K/uL
   147 mg/dL
   7.0 mg/dL
   26 mEq/L
   4.1 mEq/L
   85 mg/dL
   104 mEq/L
   145 mEq/L
   27.7 %
   4.7 K/uL
        [image002.jpg]
                             [**2145-4-11**]  05:25 AM
                             [**2145-4-12**]  03:32 AM
                             [**2145-4-13**]  04:02 AM
                             [**2145-4-14**]  05:05 AM
                             [**2145-4-15**]  04:08 AM
                             [**2145-4-16**]  04:49 AM
                             [**2145-4-16**]  02:18 PM
                             [**2145-4-16**]  07:48 PM
                             [**2145-4-17**]  03:22 AM
                             [**2145-4-18**]  03:38 AM
   WBC
   13.5
   13.1
   12.1
   10.6
   6.8
   5.7
   4.7
   4.6
   4.7
   Hct
   33.6
   32.6
   30.0
   31.1
   30.0
   28.3
   25.7
   25.2
   25.5
   27.7
   Plt
   53
   54
   42
   39
   30
   27
   29
   54
   29
   29
   Cr
   7.8
   9.0
   7.2
   9.0
   7.2
   9.5
   6.5
   7.0
   Glucose
   130
   159
   159
   182
   165
   169
   179
   147
   Other labs: PT / PTT / INR:25.2/57.4/2.5, ALT / AST:56/118, Alk Phos /
   T Bili:114/47.8, Differential-Neuts:81.9 %, Band:0.0 %, Lymph:8.9 %,
   Mono:4.6 %, Eos:4.2 %, Lactic Acid:1.1 mmol/L, Albumin:3.7 g/dL,
   LDH:208 IU/L, Ca++:10.1 mg/dL, Mg++:2.8 mg/dL, PO4:7.0 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 cont HD, octreotide
   and midodrine
 HEPATORENAL SYNDROME
 HEMATEMESIS (UPPER GI BLEED, UGIB)
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 BRADYCARDIA
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:  tf
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-1**] 08:00 PM
   PICC Line - [**2145-4-11**] 09:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :

2145-04-19 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   none
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-19**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (97
   HR: 64 (61 - 72) bpm
   BP: 89/51(60) {51/27(38) - 119/84(89)} mmHg
   RR: 16 (10 - 20) insp/min
   SpO2: 94%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 73 Inch
             Total In:
                                                                  1,283 mL
                                                                    136 mL
   PO:
             60 mL
   TF:
                                                                    773 mL
   IVF:
                                                                    240 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,283 mL
                                                                    136 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   23 K/uL
   9.7 g/dL
   112 mg/dL
   10.5 mg/dL
   25 mEq/L
   4.3 mEq/L
   107 mg/dL
   103 mEq/L
   145 mEq/L
   28.6 %
   4.8 K/uL
        [image002.jpg]
                             [**2145-4-13**]  04:02 AM
                             [**2145-4-14**]  05:05 AM
                             [**2145-4-15**]  04:08 AM
                             [**2145-4-16**]  04:49 AM
                             [**2145-4-16**]  02:18 PM
                             [**2145-4-16**]  07:48 PM
                             [**2145-4-17**]  03:22 AM
                             [**2145-4-18**]  03:38 AM
                             [**2145-4-18**]  04:00 PM
                             [**2145-4-19**]  02:52 AM
   WBC
   12.1
   10.6
   6.8
   5.7
   4.7
   4.6
   4.7
   4.7
   4.8
   Hct
   30.0
   31.1
   30.0
   28.3
   25.7
   25.2
   25.5
   27.7
   27.7
   28.6
   Plt
   42
   39
   30
   27
   29
   54
   29
   29
   19
   23
   Cr
   7.2
   9.0
   7.2
   9.5
   6.5
   7.0
   10.5
   Glucose
   159
   182
   165
   169
   179
   147
   112
   Other labs: PT / PTT / INR:29.2/69.0/3.0, ALT / AST:56/118, Alk Phos /
   T Bili:114/47.8, Differential-Neuts:81.9 %, Band:0.0 %, Lymph:8.9 %,
   Mono:4.6 %, Eos:4.2 %, Lactic Acid:1.1 mmol/L, Albumin:3.7 g/dL,
   LDH:208 IU/L, Ca++:10.3 mg/dL, Mg++:3.0 mg/dL, PO4:7.8 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1806**] is a 55 year old male with MELD 58 HCV cirhosis c/b
   encephalopathy, ascites, SBP on vasopressors awaiting liver transplant.
   # Anemia: HCT stable.
   - transfuse for Hct>21, plt>10, or if active bleed, decompensation,
   ischemia HCT>30, PLT>50
   - FFP, desmopressin if bleeding
   # Hypotension, leukocytosis: Repeat paracentesis ([**2145-4-9**]) negative for
   SBP with cultures NGTD.  WBC trending down.  Hypotension resolved.
   Weaned off neo on [**4-15**].  Antimicrobials held per ID.
   - Per tx [**Doctor First Name 91**], SPA Q6H.
   # SBP: Para negative on [**4-1**] and repeat para negative on [**4-9**]. 14 day
   course vanco and pip/tazo
   # ESLD: Patient with decompensated HCV cirrhosis with MELD 58 in the
   setting of SBP, HRS. Remains encephalopathic, although mental status
   improved from initial micu admission.  Per hepatology attending,
   patient is currently on the transplant list as of [**2145-4-10**].
   - Continue lactulose and rifaxamin.
   -  Follow-up with hepatology and transplant [**Doctor First Name 91**]
   # Renal failure: Patient with HRS type 1 in setting of SBP and
   decompensated liver failure. Patient on HD for 15 days, irenal states
   that he is now a candidate for renal transplant also.
   - On HD and midodrine/octreotide.
   - Follow-up with renal and renal tx recs if any
   FEN: TFs. Replete as necessary
   PPx: SCDs, PPI
   Contact: HCP is [**Name (NI) 777**] [**Name (NI) 6397**] sister [**Telephone/Fax (1) 6398**], second HCP is [**Name (NI) 1760**]
   [**Name (NI) 6399**] - sister - (h) [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**] (do not leave
   msg on cell).
   Dispo: ?call out
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-1**] 08:00 PM
   PICC Line - [**2145-4-11**] 09:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his
   note above, including assessment and plan.  PMH, SH, FH and ROS are
   unchanged from admission except where noted above and below.
   55M ESLD, peritonitis, encephalopathy, ARF/HRS on HD. Serial taps neg
   for recurrent SBP. Awaiting liver and kidney transplant.
   97 64 89/51 16 94% on 3L
   Has not been on pressor since [**4-15**]
   1.2/0 I/O
   HD ongoing- running even
   Exam: anasarca, abd distended but not tense, jaundiced, lethargic but
   oriented x 3, lungs cta, RRR distant, skin warm and well perfused.
   meds:
   lactulose, ppi, rifaximin, midodrine, octreotide 200 mcg sc q8,
   ursodiol, sevelamer, ca
    1. ESLD/ESRD awaiting liver and kidney tx
    2. encephalopathy- mental status clear now
    3. volume overload but appears well, alert and oriented x 3
    4. Hypotension: consistently mildly hypotensive, but mentating and
       comfortable. Will use pressors if necessary but this appears to be
       his baseline. If he develops signs/sxs of volume overload such as
       increased dyspnea, hypoxemia, hypotension with possible increased
       IVC pressure, abd pain, then we can consider titrating pressor to
       remove fluid by dialysis.
    5. anemia, thrombocytopenia, counts stable
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2145-4-19**] 17:33 ------

2145-04-20 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Remained off pressors
   - Dobhoff clogged; hepatology to scope and place new Dobhoff
   - No new complaints this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-20**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.6
   HR: 67 (61 - 76) bpm
   BP: 102/51(63) {70/30(40) - 106/81(86)} mmHg
   RR: 17 (10 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  1,200 mL
                                                                     68 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  1,040 mL
                                                                     68 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  1,200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                     68 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General: Alert, oriented to person, place,
[**2146-4-19**]) with mild
   confusion, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing or cyanosis, 2+ BLE
   edema
   Labs / Radiology
   26 K/uL
   8.8 g/dL
   127 mg/dL
   8.5 mg/dL
   25 mEq/L
   4.1 mEq/L
   78 mg/dL
   104 mEq/L
   145 mEq/L
   25.8 %
   4.8 K/uL
        [image002.jpg]
                             [**2145-4-14**]  05:05 AM
                             [**2145-4-15**]  04:08 AM
                             [**2145-4-16**]  04:49 AM
                             [**2145-4-16**]  02:18 PM
                             [**2145-4-16**]  07:48 PM
                             [**2145-4-17**]  03:22 AM
                             [**2145-4-18**]  03:38 AM
                             [**2145-4-18**]  04:00 PM
                             [**2145-4-19**]  02:52 AM
                             [**2145-4-20**]  03:37 AM
   WBC
   10.6
   6.8
   5.7
   4.7
   4.6
   4.7
   4.7
   4.8
   4.8
   Hct
   31.1
   30.0
   28.3
   25.7
   25.2
   25.5
   27.7
   27.7
   28.6
   25.8
   Plt
   39
   30
   27
   29
   54
   29
   29
   19
   23
   26
   Cr
   9.0
   7.2
   9.5
   6.5
   7.0
   10.5
   8.5
   Glucose
   182
   165
   169
   179
   147
   112
   127
   Other labs: PT / PTT / INR:35.8/78.5/3.8, ALT / AST:59/96, Alk Phos / T
   Bili:114/45.9, Differential-Neuts:81.9 %, Band:0.0 %, Lymph:8.9 %,
   Mono:4.6 %, Eos:4.2 %, Fibrinogen:128 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.7 g/dL, LDH:208 IU/L, Ca++:9.8 mg/dL, Mg++:2.6 mg/dL, PO4:6.2
   mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1806**] is a 55 year old male with MELD 58 HCV cirhosis c/b
   encephalopathy, ascites, SBP on vasopressors awaiting liver transplant.
   # Anemia: Likely low grade and stable LGIB. HCT stable.
   - transfuse for Hct>21, plt>10, or if active bleed, decompensation,
   ischemia HCT>30, PLT>50
   - FFP, desmopressin if bleeding
   # Hypotension, leukocytosis: Repeat paracentesis ([**2145-4-9**]) negative for
   SBP with cultures NGTD.  Leukocytosis improving and hypotension
   resolved; weaned off neo on [**4-15**].  Antimicrobials held per ID.
   - Per tx [**Doctor First Name 91**], SPA Q6H.
   - F/u paracentesis and blood cultures.
   # SBP: Para negative on [**4-1**] and repeat para negative on [**4-9**].
   - Vanco and pip/tazo discontinued after 14 day course
   - Follow-up culture data
   # ESLD: Patient with decompensated HCV cirrhosis with MELD 58 in the
   setting of SBP, HRS. Remains encephalopathic, although mental status
   improved from initial micu admission.  Per hepatology attending,
   patient is currently on the transplant list as of [**2145-4-10**].
   - Continue lactulose and rifaxamin.
   - Trend LFTs.
   -  Follow-up with hepatology and transplant [**Doctor First Name 91**]
   # Renal failure: Patient with HRS type 1 in setting of SBP and
   decompensated liver failure. Patient on HD for 15 days, irenal states
   that he is now a candidate for renal transplant also.
   - On HD and midodrine/octreotide.
   - Follow-up with renal and renal tx recs if any
   - Continue to monitor lytes, BUN/Cr.
   ICU Care
   Nutrition: Hepatology to replace Dobhoff with scoping, the n resume
   TFs. Replete as necessary. NPO for aspiration risk.
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-1**] 08:00 PM
   PICC Line - [**2145-4-11**] 09:30 AM
   Prophylaxis:
   DVT: SCDs
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: : HCP is [**Name (NI) 777**] [**Name (NI) 6397**] sister [**Telephone/Fax (1) 6398**],
   second HCP is [**Name (NI) 1760**] [**Name (NI) 6399**] - sister - (h) [**Telephone/Fax (1) 6400**], (c)
   [**Telephone/Fax (1) 6401**] (do not leave msg on cell).
   Code status: Full code
   Disposition: Call out
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his
   note above, including assessment and plan.  PMH, SH, FH and ROS are
   unchanged from admission except where noted above and below.
   55M ESLD, peritonitis, encephalopathy, ARF/HRS on HD. Serial taps neg
   for recurrent SBP. Awaiting liver and kidney transplant.
   Has not been on pressor since [**4-15**]
   Exam: anasarca, abd distended but not tense, jaundiced, lethargic but
   oriented x 3, lungs cta, RRR distant, skin warm and well perfused.
    1. ESLD/ESRD awaiting liver and kidney tx
    2. encephalopathy- mental status clear now but waxes and wanes
    3. volume overload but appears well, alert and oriented x 3
    4. Hypotension: consistently mildly hypotensive, but mentating and
       comfortable. Currently no signs/sxs of volume overload such as
       increased dyspnea, hypoxemia, hypotension, abd pain
    5. anemia, thrombocytopenia, counts stable
   Safe for transfer to floor as we are not treating his persistently low
   blood pressure.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2145-4-20**] 15:22 ------